2117-10-29 06:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: fevers/sepsis
   24 Hour Events:
 MULTI LUMEN - START [**2117-10-28**] 02:58 PM
 MULTI LUMEN - STOP [**2117-10-28**] 04:30 PM
 DIALYSIS CATHETER - STOP [**2117-10-28**] 04:30 PM
 EKG - At [**2117-10-29**] 12:30 AM
 FEVER - 103.1
F - [**2117-10-29**] 12:00 AM
   Abios: cefipime, vanc, tamiflu
   - Right IJ placed.  Left subclavian and dialysis lines sent for
   culture.  Dialysis tip touched non-sterile glove.
   - CT scan of head: no acute process. Fluid in mastoid sinuses.
   - CT scan of torso: LLL completely opacified by multifocal pneumonia,
   small amount of free fluid, abdomen otherwise benign.
   - f/u pan cultures -> respiratory culture inadequate.
   - UA w/ [**5-12**] epi's, but pt anuric. Will f/u culture.
   - f/u LFT tomorrow to assure trending down
   - repeat ABG: 7.30/38/96, improving acidosis.
   - Started tube feeds with nutren pulmonary to goal 40ml/hour as there
   is no in-house nutrition tonight.
   - flu DFA negative, stopped oseltamivir
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2117-10-28**] 03:15 AM
   Tamiflu - [**2117-10-28**] 08:00 PM
   Cefipime - [**2117-10-29**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-10-29**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-10-29**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 37.4
C (99.4
   HR: 77 (77 - 122) bpm
   BP: 118/50(69) {84/46(62) - 123/60(77)} mmHg
   RR: 31 (28 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 122.1 kg (admission): 119 kg
   Height: 69 Inch
    CVP: 14 (12 - 19)mmHg
   Bladder pressure: 9 (9 - 9) mmHg
   Total In:
                                                                  2,448 mL
                                                                    526 mL
   PO:
   TF:
                                                                     89 mL
                                                                    220 mL
   IVF:
                                                                  1,499 mL
                                                                    306 mL
   Blood products:
   Total out:
                                                                    108 mL
                                                                     10 mL
   Urine:
                                                                      8 mL
                                                                     10 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  2,340 mL
                                                                    516 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 29 cmH2O
   SpO2: 96%
   ABG: 7.32/37/116/19/-6
   Ve: 14.8 L/min
   PaO2 / FiO2: 232
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   226 K/uL
   10.1 g/dL
   210 mg/dL
   7.7 mg/dL
   19 mEq/L
   4.7 mEq/L
   68 mg/dL
   106 mEq/L
   143 mEq/L
   31.2 %
   12.5 K/uL
        [image002.jpg]
                            [**2117-10-27**]  11:09 PM
                            [**2117-10-27**]  11:28 PM
                            [**2117-10-28**]  04:30 AM
                            [**2117-10-28**]  11:18 AM
                            [**2117-10-28**]  06:06 PM
                            [**2117-10-28**]  11:17 PM
                            [**2117-10-29**]  03:17 AM
                            [**2117-10-29**]  03:27 AM
   WBC
   12.5
   10.6
   12.5
   Hct
   37.9
   42
   31.7
   31.2
   Plt
   [**Telephone/Fax (3) 11792**]
   Cr
   5.4
   7.2
   7.7
   TropT
   0.20
   TCO2
   25
   19
   21
   20
   Glucose
   147
   156
   210
   Other labs: PT / PTT / INR:14.4/42.1/1.2, CK / CKMB /
   Troponin-T:238/2/0.20, ALT / AST:52/104, Alk Phos / T Bili:260/5.2,
   Differential-Neuts:82.0 %, Band:1.0 %, Lymph:10.0 %, Mono:6.0 %,
   Eos:1.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.1 g/dL, LDH:437 IU/L,
   Ca++:7.1 mg/dL, Mg++:2.7 mg/dL, PO4:6.4 mg/dL
   Imaging: [**10-29**] CXR: ET tube high? continued left-sided opacity
   [**10-28**] CXR: widespread left mid and lower lobe consolidations as well as
   right basal consolidation. Small amount of bilateral pleural effusion
   is present.
   Micro: Flu DFA negative.  Urine and blood cx pending.
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CARDIAC DYSRHYTHMIA OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   37 y/o with DM presents from OSH after presenting in septic shock with
   Staph PNA / bacteria with a course complicated by ARF and tachycardia
   .
   # Septic shock: BP stable off pressors. Culture data positive only for
   staph in the sputum and blood early in OSH course. CXRs with L > R
   infiltrates. We broadened antibiotics empirically yesterday with vanc
   and cefepime.  CT scan did show fluid in sinuses and multi-focal
   pneumonia but no other clear source.
    Treated for flu although DFA neg x 2 in OSH. Elevated Mixed venous Sat
   elevated at  84% and mottled appearance most suggestive of Septic
   etiology. CVP at 15, hypovolemia unlikely. Robust BP despite
   tachycardia, high Mixed venous, and preserved EF on OSH ECHO suggests
   against cardiogenic shock. Given neg Urine legionalla and Prolonged QTc
   at times avoid FQ.
   Over likely sources include line infection, urine, or sinus (given
   sinusitus on CT head). Drug fever also possible. Fevers to 105 may also
   be [**1-4**] a central CNS process.
   - monitor BP for MAP goal > 60
   - CVP goal [**7-14**]
   - mixed venous sat goal > 70
   - monitor fever curve
   - Blood, urine, sputum, stool (c diff) cultures.
   - Repeat DFA
   - trend lactate (1.0 currently)
   - replace naficillin for Vanco and Cefepime for HAP
   - Given convincing viral prodrome continue Tamiflu until repeat DFA
   here.
   - f/u final read CXR
   # Hypoxic Resp failure: Bilateral infiltrates on CXR and high oxygen
   requirement suggestive of ARDS.
   - ARDS net protocol with TV at 6cc/kg
   - monitor plateau, titrate up PEEP for plateus in low 30s.
   - wean FiO2 as tolerated
   - fluid removal via dialysis
   - RSBI in am
   - fentanyl and versed for sedation.
   # ARF: Cr peak at 7.5 on HD at OSH. Likely ATN. Currently oliguric,
   which will likely continue while he is so sick.
   - Renal following
   - dialysis catheter today.
   # Tachycardia: appears sinus on arrival. Records state Afib, however
   apears sinus on all tracings. OSH EKG with RBBB as recently as [**10-26**].
   This would be an odd presentation of rate related IVCD given the slower
   rate on EKGs with QRS widing. Ddx for sinus tachy includes fever vs
   pain vs agitation vs withdrawl (possible Etoh history).
   - titrate sedation to aggitation.
   - tylenol prn
   - optimize respiratory status
   - abx as above, infectious w/u
   - monitor BP
   # Elevated Troponin: CK elevated, CKMB flat. most likely demand
   ischemia in setting of shock and persistent tachycardia vs elevated [**1-4**]
   renal failure. ACS given age unlikely, d/c ACS treatment including ASA,
   heparin gtt, plavix
   # Acidemia: Anion gap metabolic acidosis with normal Lactic acid .
   Likely [**1-4**] renal failure. Combined with Resp acidosis, likely [**1-4**] poor
   ventilation in setting of LLL colapse.
   - dialsis per renal
   - maximize minute ventilation
   - trend ABG.
   # mild LFT elevation: likely [**1-4**] prolonged hypotension.
   - trend
   - limit tylenol to 2 gm daily
   # DM: BG stable on SS
   - continue Reg SS
   #: FEN; no IVF, lytes prn, on tube feeds but needs nutrition consult
   .
   Prophylaxis: Subcutaneous heparin, PPI
   .
   Access: right IJ and A line.  Needs dialysis line.
   .
   Code:  Full code confirmed
   .
   Communication: Mother, [**Name (NI) **] [**Name (NI) 11771**] [**Telephone/Fax (1) 11772**]
   .
   Disposition: pending clinical improvement

2117-10-29 10:39:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   39 yo man with MSSA PNA, sepsis, ARDS.   Lines changed yesterday.
   Still febrile, but improving
   respiratory status.
   24 Hour Events:
 MULTI LUMEN - START [**2117-10-28**] 02:58 PM
 MULTI LUMEN - STOP [**2117-10-28**] 04:30 PM
 DIALYSIS CATHETER - STOP [**2117-10-28**] 04:30 PM
 EKG - At [**2117-10-29**] 12:30 AM
 FEVER - 103.1
F - [**2117-10-29**] 12:00 AM
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2117-10-28**] 03:15 AM
   Tamiflu - [**2117-10-28**] 08:00 PM
   Cefipime - [**2117-10-29**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-10-29**] 12:00 AM
   Other medications:
   chlorhex
   cefipime
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-10-29**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 37.7
C (99.9
   HR: 79 (77 - 93) bpm
   BP: 121/51(70) {100/46(62) - 123/60(77)} mmHg
   RR: 31 (9 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 122.1 kg (admission): 119 kg
   Height: 69 Inch
   CVP: 14 (12 - 15)mmHg
   Bladder pressure: 9 (9 - 9) mmHg
   Total In:
                                                                  2,448 mL
                                                                    737 mL
   PO:
   TF:
                                                                     89 mL
                                                                    371 mL
   IVF:
                                                                  1,499 mL
                                                                    366 mL
   Blood products:
   Total out:
                                                                    108 mL
                                                                     10 mL
   Urine:
                                                                      8 mL
                                                                     10 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  2,340 mL
                                                                    727 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 27 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.32/37/116/19/-6
   Ve: 15.9 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General Appearance: No(t) No acute distress
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: No(t) Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: No(t) Soft, No(t) Non-tender, No(t) Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   226 K/uL
   210 mg/dL
   7.7 mg/dL
   19 mEq/L
   4.7 mEq/L
   68 mg/dL
   106 mEq/L
   143 mEq/L
   31.2 %
   12.5 K/uL
        [image002.jpg]
                            [**2117-10-27**]  11:09 PM
                            [**2117-10-27**]  11:28 PM
                            [**2117-10-28**]  04:30 AM
                            [**2117-10-28**]  11:18 AM
                            [**2117-10-28**]  06:06 PM
                            [**2117-10-28**]  11:17 PM
                            [**2117-10-29**]  03:17 AM
                            [**2117-10-29**]  03:27 AM
   WBC
   12.5
   10.6
   12.5
   Hct
   37.9
   42
   31.7
   31.2
   Plt
   [**Telephone/Fax (3) 11792**]
   Cr
   5.4
   7.2
   7.7
   TropT
   0.20
   TCO2
   25
   19
   21
   20
   Glucose
   147
   156
   210
   Other labs: PT / PTT / INR:14.4/42.1/1.2, CK / CKMB /
   Troponin-T:238/2/0.20, ALT / AST:52/104, Alk Phos / T Bili:260/5.2,
   Differential-Neuts:82.0 %, Band:1.0 %, Lymph:10.0 %, Mono:6.0 %,
   Eos:1.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.1 g/dL, LDH:437 IU/L,
   Ca++:7.1 mg/dL, Mg++:2.7 mg/dL, PO4:6.4 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CARDIAC DYSRHYTHMIA OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   Continue weaning PEEP as tolerated.
   Staph PNA/ARDS:  Slow improvement. on oxacillin
   Fever curve is lower with antibiotics.
   ATN/ARF:  To get new HD catheter for HD.
   DM:  Increasing FSBG - going up on SSI.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2117-10-28**] 06:30 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2117-10-28**] 02:14 AM
   Multi Lumen - [**2117-10-28**] 02:58 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2117-10-30 08:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ARDS and ARF
   24 Hour Events:
 DIALYSIS CATHETER - START [**2117-10-29**] 01:13 PM
   catheter with side port.
   Patient went into AFib w/ RVR during dialysis yesterday and it was
   ended early (after 0.5L removed) Given 10 lopressor and 20 of dilt .
   Gave PO load of dilt.  Converted back to sinus.
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2117-10-28**] 03:15 AM
   Tamiflu - [**2117-10-28**] 08:00 PM
   Cefipime - [**2117-10-30**] 04:10 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Metoprolol - [**2117-10-29**] 03:30 PM
   Diltiazem - [**2117-10-29**] 03:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-10-30**] 08:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.2
C (100.8
   HR: 89 (72 - 178) bpm
   BP: 128/56(78) {97/42(63) - 161/69(91)} mmHg
   RR: 30 (26 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 122.1 kg (admission): 119 kg
   Height: 69 Inch
    CVP: 20 (9 - 22)mmHg
   Total In:
                                                                  1,501 mL
                                                                    556 mL
   PO:
   TF:
                                                                    921 mL
                                                                    328 mL
   IVF:
                                                                    580 mL
                                                                    228 mL
   Blood products:
   Total out:
                                                                    562 mL
                                                                    505 mL
   Urine:
                                                                     32 mL
                                                                      5 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                    939 mL
                                                                     51 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 23 cmH2O
   SpO2: 96%
   ABG: 7.43/35/78.[**Numeric Identifier 181**]/22/0
   Ve: 16.7 L/min
   PaO2 / FiO2: 158
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   252 K/uL
   10.1 g/dL
   227 mg/dL
   7.4 mg/dL
   22 mEq/L
   3.9 mEq/L
   65 mg/dL
   102 mEq/L
   141 mEq/L
   30.3 %
   10.4 K/uL
        [image002.jpg]
                            [**2117-10-28**]  06:06 PM
                            [**2117-10-28**]  11:17 PM
                            [**2117-10-29**]  03:17 AM
                            [**2117-10-29**]  03:27 AM
                            [**2117-10-29**]  10:31 AM
                            [**2117-10-29**]  03:58 PM
                            [**2117-10-29**]  04:08 PM
                            [**2117-10-29**]  06:29 PM
                            [**2117-10-30**]  02:55 AM
                            [**2117-10-30**]  03:00 AM
   WBC
   10.6
   12.5
   10.4
   Hct
   31.7
   31.2
   30.3
   Plt
   237
   226
   252
   Cr
   7.2
   7.7
   6.3
   7.4
   TCO2
   21
   20
   19
   24
   25
   24
   Glucose
   156
   210
   222
   227
   Other labs: PT / PTT / INR:14.4/42.1/1.2, CK / CKMB /
   Troponin-T:238/2/0.20, ALT / AST:52/104, Alk Phos / T Bili:260/5.2,
   Differential-Neuts:82.0 %, Band:1.0 %, Lymph:10.0 %, Mono:6.0 %,
   Eos:1.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL, LDH:437 IU/L,
   Ca++:7.0 mg/dL, Mg++:2.6 mg/dL, PO4:5.6 mg/dL
   Imaging: FINDINGS: As compared to the previous examination, a new
   central venous
   access line has been placed over the left internal jugular vein. The
   tip of
   the line projects over the mid SVC. There is no evidence of
   complications,
   notably no pneumothorax.
     CXR [**2117-10-29**]
   The other monitoring and support devices are in unchanged position.
   Also
   unchanged is the size of the cardiac silhouette as well as the right
   suprabasal atelectasis and the relatively extensive left mid lung and
   basal  parenchymal opacity with air bronchograms.
   Microbiology: All cultures NTD
   Assessment and Plan
   37 y/o with DM presents from OSH after presenting in septic shock with
   Staph PNA / bacteria with a course complicated by ARF and tachycardia
   .
   # Septic shock: BP stable off pressors. Culture data positive only for
   staph in the sputum and blood early in OSH course.  CT scan with L > R
   infiltrates, but no sign of empyema. We broadened antibiotics
   empirically with vanc and cefepime with improvement in the patient
   status.  CT scan did show fluid in sinuses and multi-focal pneumonia
   but no other clear source.  Treated for flu although DFA neg x 2 in
   OSH, with another negative DFA here we stopped Tamiflu.
   Elevated Mixed venous Sat elevated at  84% and mottled appearance most
   suggestive of Septic etiology. CVP at 15, hypovolemia unlikely. Robust
   BP despite tachycardia, high Mixed venous, and preserved EF on OSH ECHO
   suggests against cardiogenic shock. Given neg Urine legionalla and
   Prolonged QTc at times avoid FQ.
   - Continue Vanco and Cefepime to cover for HAP.  We will continue with
   broad coverage considering improvement, and we will treat for a 15 day
   course from yesterday (today day 3).
   - f/u cultures
   - f/u read of daily CXR
   .
   # Hypoxic Resp failure: O2 saturations have improved.  Bilateral
   infiltrates on CXR and high oxygen requirement suggestive of ARDS.
   Bladder pressures are lower today, suggesting we have room to wean down
   his PEEP.
   - ARDS net protocol with TV at 6cc/kg
   - wean FiO2 and PEEP as tolerated
   - fluid removal via dialysis
   - RSBI in am
   - fentanyl and versed for sedation.
   .
   # ARF: Cr peak at 7.5 on HD at OSH. Likely ATN. Currently oliguric,
   which will likely continue while he is so sick.
   - Renal following
   - dialysis catheter today with trial of intermittent dialysis.
   .
   # Tachycardia/ AFib: appeared sinus on arrival.  Yesterday had a couple
   runs of tachycardia that appeared to be afib with aberrancy that were
   self-limited and well-tolerated.   OSH EKG with RBBB as recently as
   [**10-26**], and reports of atrial fibrillation requiring treatment with
   diltiazem.  Yesterday went into AFib w/ RVR during dialysis.  Treated
   w/ lopressor 10, dilt 20 IV and dilt PO60.  Converted back to sinus
   after 1-2 hours.
   - titrate sedation to agitation.
   - tylenol prn
   - optimize respiratory status
   - abx as above, infectious w/u
   - monitor BP
   .
   # Elevated Troponin: CK elevated, CKMB flat. most likely demand
   ischemia in setting of shock and persistent tachycardia vs elevated [**1-4**]
   renal failure. ACS given age unlikely, d/c ACS treatment including ASA,
   heparin gtt, plavix
   .
   # Acidemia: Anion gap metabolic acidosis with normal Lactic acid .
   Likely [**1-4**] renal failure. Combined with Resp acidosis, likely [**1-4**] poor
   ventilation in setting of LLL collapse.
   - dialysis per renal
   - maximize minute ventilation
   - trend ABG, is improved
   .
   # mild LFT elevation: likely [**1-4**] prolonged hypotension.  Improving.
   Added on to today's labs because had not been drawn since [**10-27**]
   - trend
   - limit tylenol to 2 gm daily
   .
   # DM: Was hyperglycemic yesterday and we are starting tube feeds, so we
   will increase his sliding scale.
   - continue Reg SS
   .
   #: FEN; no IVF, lytes prn, on tube feeds but needs nutrition consult
   Prophylaxis: Subcutaneous heparin, PPI
   Access: right IJ and A line, and HD line
   Code:  Full code confirmed
   Communication: Mother, [**Name (NI) **] [**Name (NI) 11771**] [**Telephone/Fax (1) 11772**]
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2117-10-29**] 11:44 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2117-10-28**] 02:14 AM
   Multi Lumen - [**2117-10-28**] 02:58 PM
   Dialysis Catheter - [**2117-10-29**] 01:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2117-10-30 10:11:00 Physician Attending Progress Note
Chief Complaint: Acute renal failure, afib, hypotension, bacteremia,
   acute respiratory failure, pneumonia, acidosis, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Had episode of afib during dialysis. Required lopressor and diltiazem
   to control ventricular rate and then converted to NSR.
   Continues on vent. FIO2 at 0.5.
   Continues on antibiotics. WBC stable at 10.
   24 Hour Events:
 DIALYSIS CATHETER - START [**2117-10-29**] 01:13 PM
   catheter with side port.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2117-10-28**] 03:15 AM
   Tamiflu - [**2117-10-28**] 08:00 PM
   Cefipime - [**2117-10-30**] 04:10 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Metoprolol - [**2117-10-29**] 03:30 PM
   Diltiazem - [**2117-10-29**] 03:50 PM
   Heparin Sodium (Prophylaxis) - [**2117-10-30**] 08:23 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-10-30**] 10:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 39.5
C (103.1
   HR: 102 (72 - 178) bpm
   BP: 133/61(83) {97/42(63) - 161/69(91)} mmHg
   RR: 25 (25 - 34) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 122.1 kg (admission): 119 kg
   Height: 69 Inch
   CVP: 18 (9 - 22)mmHg
   Total In:
                                                                  1,501 mL
                                                                    707 mL
   PO:
   TF:
                                                                    921 mL
                                                                    394 mL
   IVF:
                                                                    580 mL
                                                                    253 mL
   Blood products:
   Total out:
                                                                    562 mL
                                                                    505 mL
   Urine:
                                                                     32 mL
                                                                      5 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                    939 mL
                                                                    202 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 30
   RR (Spontaneous): 6
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 23 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 94%
   ABG: 7.43/35/78.[**Numeric Identifier 181**]/22/0
   Ve: 16.2 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: Coarse
   breath sounds right greater than left)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , Obese
   Extremities: Right lower extremity edema: 1+ edema, Left lower
   extremity edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   252 K/uL
   227 mg/dL
   7.4 mg/dL
   22 mEq/L
   3.9 mEq/L
   65 mg/dL
   102 mEq/L
   141 mEq/L
   30.3 %
   10.4 K/uL
        [image002.jpg]
                            [**2117-10-28**]  06:06 PM
                            [**2117-10-28**]  11:17 PM
                            [**2117-10-29**]  03:17 AM
                            [**2117-10-29**]  03:27 AM
                            [**2117-10-29**]  10:31 AM
                            [**2117-10-29**]  03:58 PM
                            [**2117-10-29**]  04:08 PM
                            [**2117-10-29**]  06:29 PM
                            [**2117-10-30**]  02:55 AM
                            [**2117-10-30**]  03:00 AM
   WBC
   10.6
   12.5
   10.4
   Hct
   31.7
   31.2
   30.3
   Plt
   237
   226
   252
   Cr
   7.2
   7.7
   6.3
   7.4
   TCO2
   21
   20
   19
   24
   25
   24
   Glucose
   156
   210
   222
   227
   Other labs: PT / PTT / INR:14.4/42.1/1.2, CK / CKMB /
   Troponin-T:238/2/0.20, ALT / AST:52/104, Alk Phos / T Bili:260/5.2,
   Differential-Neuts:82.0 %, Band:1.0 %, Lymph:10.0 %, Mono:6.0 %,
   Eos:1.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL, LDH:437 IU/L,
   Ca++:7.0 mg/dL, Mg++:2.6 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CARDIAC DYSRHYTHMIA OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   ACIDOSIS
   PNEUMONIA
   ==========================
   Afebrile with high normal WBC on present antibiotics. Continue for now.
   Minute ventilation at 15 L/min with mildly reduced PaCO2 consistent
   with large amount of dead space. Oxygenation adequate. CVP high and
   filling pressure high even corrected for PEEP. Would like to remove
   more fluid with dialysis.
   Afib episode yesterday likely due to fluid shifts. Would check cardiac
   enzymes. Follow ECGs for possible ischemia; check AM ECG. No
   significant change in oxygenation to suggest PE; patient on DVT
   prophylaxis with sc heparin and boots. Would like to avoid contrast
   studies in setting of possible ATN.
   Patient with anion gap acidosis probably from acute renal failure.
   Delta/delta suggests pre-existing metabolic alkalosis before acute
   renal failure.
   Hct 30; no evidence of bleeding. Monitor stool guaiac. Not at
   transfusion threshold.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2117-10-29**] 11:44 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2117-10-28**] 02:14 AM
   Multi Lumen - [**2117-10-28**] 02:58 PM
   Dialysis Catheter - [**2117-10-29**] 01:13 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2117-10-31 08:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 103.1
F - [**2117-10-30**] 08:00 AM
   - started PO dilt 30 qid
   - EKG this am: TWI inferior leads, normalization of TW in lateral leads
   - stool guiac for anemia
   - OSH sensitivities/micro now in chart --> sputum with 4+ Staph, blood
   negative, flu negative
   - Renal recs: get HD today --> Vanc dose after HD. Start Phoslo 667 tid
   for hyperphosphatemia (already ordered for Ca Acetate 1334mg PO tid
   with meals)
   - CE's: Trop flat, MB flat
   - LFT's stable from this am
   - Origin of metabolic alkalosis: thought about it, only thing that made
   sense was post hypercapnia
   - ABG 8p: 7.46/36/85/26
   - Random vanc after HD and before vanc dose: 9.8
   Allergies:
   Last dose of Antibiotics:
   Tamiflu - [**2117-10-28**] 08:00 PM
   Vancomycin - [**2117-10-31**] 12:00 AM
   Cefipime - [**2117-10-31**] 04:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-10-31**] 12:00 AM
   Famotidine (Pepcid) - [**2117-10-31**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-10-31**] 08:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2  yesterday 11am but still febrile this am
   Tcurrent: 37.2
C (99
   HR: 75 (75 - 102) bpm
   BP: 135/44(68) {122/39(65) - 167/64(87)} mmHg
   RR: 30 (14 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 122.1 kg (admission): 119 kg
   Height: 69 Inch
    CVP: 14 (14 - 19)mmHg
   Total In:
                                                                  1,618 mL
                                                                    854 mL
   PO:
   TF:
                                                                    964 mL
                                                                    334 mL
   IVF:
                                                                    474 mL
                                                                    430 mL
   Blood products:
   Total out:
                                                                  1,540 mL
                                                                    305 mL
   Urine:
                                                                     40 mL
                                                                      5 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                       78 --> 3.9L positive through LOS mL
                                                                    549 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, Hemodynamic Instability
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/36/85/25/1   YESTERDAY PM, CO2 stable, O2 stable through
   yesterday
   Ve: 15.1 L/min
   PaO2 / FiO2: 170
   Physical Examination
   Sedated, intubated. Lungs CTAB, no w/c/r/r but some upper airway
   sounds. RRR, S1 S2 clear, no murmurs. Abdomen obese but soft, NT ND.
   BLE without edema. Has macular erythematous blanching rash on abdomen
   and flanks that is new.
   Labs / Radiology
   280 K/uL
   9.9 g/dL
   215 mg/dL
   7.8 mg/dL
   25 mEq/L
   3.9 mEq/L
   69 mg/dL
   103 mEq/L
   142 mEq/L
   29.1 %
   9.7 K/uL
        [image002.jpg]
                            [**2117-10-29**]  03:17 AM
                            [**2117-10-29**]  03:27 AM
                            [**2117-10-29**]  10:31 AM
                            [**2117-10-29**]  03:58 PM
                            [**2117-10-29**]  04:08 PM
                            [**2117-10-29**]  06:29 PM
                            [**2117-10-30**]  02:55 AM
                            [**2117-10-30**]  03:00 AM
                            [**2117-10-30**]  07:50 PM
                            [**2117-10-31**]  01:23 AM
   WBC
   12.5
   10.4
   9.7   DOWN
   Hct
   31.2
   30.3
   29.1  DOWN
   Plt
   [**Telephone/Fax (3) 11820**]  STABLE
   Cr
   7.7
   6.3
   7.4
   7.8  ELEVATED AND STABLE
   TropT
   0.21
   TCO2
   20
   19
   24
   25
   24
   26
   Glucose
   [**Telephone/Fax (3) 11821**]15
   Other labs: PT / PTT / INR:14.4/42.1/1.2, CK / CKMB /
   Troponin-T:550/2/0.21
 0.20 , ALT / AST:62/138  SLIGHTLY ELEVATED, Alk
   Phos / T Bili:317/2.7  ALKP RISING AND TBILI STABLE, Amylase /
   Lipase:57/, Differential-Neuts:82.0 %, Band:1.0 %, Lymph:10.0 %,
   Mono:6.0 %, Eos:1.0 %, Lactic Acid:1.4 mmol/L YESTERDAY, Albumin:2.1
   g/Dl YESTERDAY , LDH:437 IU/L, Ca++:7.4 mg/dL, Mg++:2.6 mg/dL, PO4:4.5
   mg/Dl
   Vanc level 9.8 after HD
   [**10-29**] Cdiff negative, Bcx negative to date x2, DFA negative for flu,
   catheter tip negative x2
[**2117-10-28**] 2:57 am SPUTUM     Site: ENDOTRACHEAL
   GRAM STAIN (Final [**2117-10-28**]):
      >25 PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary):
      RARE GROWTH Commensal Respiratory Flora.
      KLEBSIELLA PNEUMONIAE.    SPARSE GROWTH.
      YEAST.    SPARSE GROWTH.
      GRAM NEGATIVE ROD #2.    RARE GROWTH.
   LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   [**10-28**] UCx negative
   [**10-31**] CXR worsening of consolidation in lower left lung
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CARDIAC DYSRHYTHMIA OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   37 y/o with DM presents from OSH after presenting in septic shock with
   Staph PNA / bacteria with a course complicated by ARF and tachycardia,
   currently remains intubated but off pressors since [**2117-10-28**].
   # Septic shock: BP stable off pressors. Culture data positive only for
   MSSA in the sputum and blood early in OSH course.  CT scan with L > R
   infiltrates, but no sign of empyema. We broadened antibiotics
   empirically with vanc and cefepime with improvement in the patient
   status.  CT scan did show fluid in sinuses and multi-focal pneumonia
   but no other clear source.  Treated for flu although DFA neg x 2 in
   OSH, with another negative DFA here we stopped Tamiflu.
   Elevated mixed venous Sat elevated at  84% and mottled appearance most
   suggestive of septic etiology. CVP at 15, hypovolemia unlikely. Robust
   BP despite tachycardia, high mixed venous, and preserved EF on OSH ECHO
   suggests against cardiogenic shock. Given negative urine legionalla and
   prolonged QTc at times, we have avoided using a fluoroquinolone.
   Currently, we are treating for the MSSA found on blood/sputum from OSH,
   Klebsiella pneumoniae in the sputum from [**Hospital1 19**], and radiographic
   evidence of PNA.
   - Would call the lab and ask them to get sensitivities for the Klebs
   culture
   - Pan Cx the pt again today
   - Get surface echo to eval for vegetations
   - Will switch ABx from Vanc/Cefepime to Nafcillin/Merrem. The pt
s MSSA
   was sensitive to Nafcillin at the OSH and he had been Tx
d with it in
   the past. The Merrem will cover the GNR (Klebs) in the sputum. Day 1
   for both will be today [**2117-10-31**].
   - f/u cultures
   - f/u read of daily CXR
   # Hypoxic Resp failure: O2 saturations have improved.  Bilateral
   infiltrates on CXR and high oxygen requirement suggestive of ARDS.  Did
   not have any weaning of his vent setting yesterday.
   - ARDS net protocol with TV at 6cc/kg
   - He is currently a little bit respiratory alkalotic, and with a resp
   rate of 30 implying that we can bring down his resp rate and not have
   him blow off so much CO2 and be alkalotic. We will drop his set resp
   rate to 24 with a calculated CO2 (goal CO2) of 44.
   - F/u ABG
s later this afternoon.
   - Fentanyl and versed for sedation
   - Had 1L of fluids removed yesterday at HD and is anuric. Would ask
   renal to be more aggressive with HD tomorrow, as HD removed 1L fluids
   but pt was still net even, and approx 4L positive through LOS.
   # New rash on back, abdomen, thighs: appears consistent with a drug
   rash, could be Vanc or Cefepime, but statistically Cefepime would be
   more likely. We could continue this ABx course, given that the rash
   does not seem too bad at this point, or switch Cefepime to Ceftazadime,
   which only has 10% cross reactivity between the two, and the pt is
   critically ill and requires ABx. However, based on above ABx
   discussion, will be switching ABx anyways.
   # ARF: Cr currently elevated at 7.8, currently oliguric, which will
   likely continue while he is so sick.
   - Renal following
   - Had HD yesterday and will f/u with renal when to have next HD
   # Tachycardia/ AFib: appeared sinus on arrival, then through his course
   had couple runs of tachycardia that appeared to be Afib with aberrancy
   that were self-limited and well-tolerated.   OSH EKG with RBBB as
   recently as [**10-26**], and reports of atrial fibrillation requiring
   treatment with diltiazem.  Several days ago, went into AFib w/ RVR
   during dialysis.  Treated w/ lopressor 10, dilt 20 IV and dilt PO60.
   Converted back to sinus after 1-2 hours.
   - Was in sinus rhythm through yesterday  and currently continues in
   sinus
   - Started Diltiazem 30 QID yesterday, will continue
   - Watch hemodynamics and rhythm
   # DM: Blood sugars continue to be elevated, will need to increase his
   ISS
   OTHER STABLE ISSUES
   # Elevated Troponin: CK elevated, CKMB flat. most likely demand
   ischemia in setting of shock and persistent tachycardia vs elevated [**1-4**]
   renal failure. ACS given age unlikely, d/c ACS treatment including ASA,
   heparin gtt, plavix
   # Mild LFT elevation: likely [**1-4**] prolonged hypotension.
   - Continue to trend
   - limit tylenol to 2 gm daily
   #: FEN; no IVF, lytes prn, on tube feeds nutren at 40cc/hr
   Prophylaxis: Subcutaneous heparin, PPI
   Access: right IJ and A line, and HD line
   Code:  Full code confirmed
   Communication: Mother, [**Name (NI) **] [**Name (NI) 11771**] [**Telephone/Fax (1) 11772**]
   Disposition: pending clinical improvement

2117-10-31 12:36:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, staph bacteremia,
   pneumonia, afib, acute renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Fever continues. WBC improved
   Tachycardia improved with oral diltiazem.
   Fluids even yesterday.
   24 Hour Events:
 FEVER - 103.1
F - [**2117-10-30**] 08:00 AM
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   Last dose of Antibiotics:
   Tamiflu - [**2117-10-28**] 08:00 PM
   Vancomycin - [**2117-10-31**] 12:00 AM
   Cefipime - [**2117-10-31**] 04:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2117-10-31**] 04:00 AM
   Midazolam (Versed) - [**2117-10-31**] 08:25 AM
   Heparin Sodium (Prophylaxis) - [**2117-10-31**] 08:26 AM
   Fentanyl - [**2117-10-31**] 08:26 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-10-31**] 12:36 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 39
C (102.2
   HR: 95 (75 - 95) bpm
   BP: 138/61(84) {122/39(65) - 170/75(93)} mmHg
   RR: 28 (14 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 122.1 kg (admission): 119 kg
   Height: 69 Inch
   CVP: 3 (3 - 19)mmHg
   Total In:
                                                                  1,618 mL
                                                                  1,066 mL
   PO:
   TF:
                                                                    964 mL
                                                                    487 mL
   IVF:
                                                                    474 mL
                                                                    489 mL
   Blood products:
   Total out:
                                                                  1,540 mL
                                                                    315 mL
   Urine:
                                                                     40 mL
                                                                     15 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                     78 mL
                                                                    751 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, Hemodynamic Instability
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.46/36/85.[**Numeric Identifier 126**]/25/1
   Ve: 15.5 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube,
   No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), I-II/VI systolic murmur at base
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 1+ edema, Left lower
   extremity edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, Rash: Erythematous rash on trunk extending to legs, No(t)
   Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   280 K/uL
   215 mg/dL
   7.8 mg/dL
   25 mEq/L
   3.9 mEq/L
   69 mg/dL
   103 mEq/L
   142 mEq/L
   29.1 %
   9.7 K/uL
        [image002.jpg]
                            [**2117-10-29**]  03:17 AM
                            [**2117-10-29**]  03:27 AM
                            [**2117-10-29**]  10:31 AM
                            [**2117-10-29**]  03:58 PM
                            [**2117-10-29**]  04:08 PM
                            [**2117-10-29**]  06:29 PM
                            [**2117-10-30**]  02:55 AM
                            [**2117-10-30**]  03:00 AM
                            [**2117-10-30**]  07:50 PM
                            [**2117-10-31**]  01:23 AM
   WBC
   12.5
   10.4
   9.7
   Hct
   31.2
   30.3
   29.1
   Plt
   [**Telephone/Fax (3) 11820**]
   Cr
   7.7
   6.3
   7.4
   7.8
   TropT
   0.21
   TCO2
   20
   19
   24
   25
   24
   26
   Glucose
   [**Telephone/Fax (3) 11821**]15
   Other labs: PT / PTT / INR:14.4/42.1/1.2, CK / CKMB /
   Troponin-T:550/2/0.21, ALT / AST:62/138, Alk Phos / T Bili:317/2.7,
   Amylase / Lipase:57/, Differential-Neuts:82.0 %, Band:1.0 %, Lymph:10.0
   %, Mono:6.0 %, Eos:1.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.1 g/dL,
   LDH:437 IU/L, Ca++:7.4 mg/dL, Mg++:2.6 mg/dL, PO4:4.5 mg/dL
   Imaging: CXR: improved alveolar infiltrates on the right; worse on the
   left.
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CARDIAC DYSRHYTHMIA OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   AFIB
   ANEMIA
   =============================
   Patient's respiratory status stable. Acceptable oxygenation on 50% FIO2
   and PEEP 10. Minute ventilation 15L/min but patient not overbreathing
   the vent. Will reduce rate to 24 and lighten sedatoin to see if he
   overbreathes the vent. Consider trying to reduce PEEP. CXR with
   somewhat worse infiltrate on the left. Fluid balance was even yesterday
   and is positive today, thus far.  When dialysis next done, need to take
   off more fluid.
   Patient with drug rash; concern for cephalosporin allergy. Wil replace
   cephalosporin with meropenem and vanco with nafcillin. Echo to assess
   for valve vegetations.
   Heart rate better controlled on calcium blocker.
   Hct stable. No evidence of bleeding. Not at transfusion threshold.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2117-10-31**] 12:37 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2117-10-28**] 02:14 AM
   Multi Lumen - [**2117-10-28**] 02:58 PM
   Dialysis Catheter - [**2117-10-29**] 01:13 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2117-11-01 09:57:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   37 yo man with MSSA PNA and ARF.  Sputum and blood with GNRs.  Sputum
   has ESBL klebs.
   AF with RVR during HD.
   24 Hour Events:
 BLOOD CULTURED - At [**2117-10-31**] 02:31 PM
 SPUTUM CULTURE - At [**2117-10-31**] 02:31 PM
 EKG - At [**2117-10-31**] 08:30 PM
 FEVER - 102.2
F - [**2117-10-31**] 12:00 PM
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2117-10-31**] 12:00 AM
   Cefipime - [**2117-10-31**] 04:00 AM
   Meropenem - [**2117-10-31**] 10:30 PM
   Nafcillin - [**2117-11-1**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-10-31**] 04:30 PM
   Famotidine (Pepcid) - [**2117-11-1**] 04:00 AM
   Other medications:
   chlordex
   diltiazem
   phoslo
   famotidine
   SSI
   lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-11-1**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 39.1
C (102.3
   HR: 103 (83 - 118) bpm
   BP: 104/55(70) {97/48(65) - 173/64(89)} mmHg
   RR: 30 (23 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 122.1 kg (admission): 119 kg
   Height: 69 Inch
   CVP: 11 (3 - 139)mmHg
   Total In:
                                                                  2,246 mL
                                                                    970 mL
   PO:
   TF:
                                                                    964 mL
                                                                    380 mL
   IVF:
                                                                  1,072 mL
                                                                    410 mL
   Blood products:
   Total out:
                                                                    350 mL
                                                                     20 mL
   Urine:
                                                                     50 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,896 mL
                                                                    950 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 6
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: 7.41/39/116/21/0
   Ve: 16.4 L/min
   PaO2 / FiO2: 193
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Bronchial: left base, Rhonchorous:
   )
   Abdominal: Soft, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm, Rash: diffuse drug rash over trunk
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   292 K/uL
   199 mg/dL
   9.4 mg/dL
   21 mEq/L
   4.5 mEq/L
   91 mg/dL
   102 mEq/L
   139 mEq/L
   30.0 %
   10.3 K/uL
        [image002.jpg]
                            [**2117-10-29**]  04:08 PM
                            [**2117-10-29**]  06:29 PM
                            [**2117-10-30**]  02:55 AM
                            [**2117-10-30**]  03:00 AM
                            [**2117-10-30**]  07:50 PM
                            [**2117-10-31**]  01:23 AM
                            [**2117-10-31**]  02:15 PM
                            [**2117-10-31**]  09:46 PM
                            [**2117-11-1**]  03:49 AM
                            [**2117-11-1**]  03:58 AM
   WBC
   10.4
   9.7
   10.3
   Hct
   30.3
   29.1
   30.0
   Plt
   [**Telephone/Fax (3) 11837**]
   Cr
   7.4
   7.8
   9.4
   TropT
   0.21
   TCO2
   24
   25
   24
   26
   26
   25
   26
   Glucose
   227
   215
   199
   Other labs: PT / PTT / INR:14.4/42.1/1.2, CK / CKMB /
   Troponin-T:550/2/0.21, ALT / AST:53/90, Alk Phos / T Bili:259/3.7,
   Amylase / Lipase:57/, Differential-Neuts:82.0 %, Band:1.0 %, Lymph:10.0
   %, Mono:6.0 %, Eos:1.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL,
   LDH:347 IU/L, Ca++:7.3 mg/dL, Mg++:2.5 mg/dL, PO4:5.5 mg/dL
   Microbiology: sputum
   blood cx [**10-31**]
   Assessment and Plan
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CARDIAC DYSRHYTHMIA OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   Fevers:  GNRs  in blood, ESBL klebsiella in sputum.  Now on meropenem.
   continue nafcillin, and add gentimicin.
   Repeat cx.
   ? of emboli on CXR, so will get TTE.
   Respiratory failure:  on FiO2 of 0.6.  Needs more fluid off before we
   can wean down.  Can reduce FiO2.
   rash:  likely due to cefepime.  now stopped.
   Acute renal failure:  To get HD today.
   AFib:  better controlled on dilt.  Can stop the lopressor
   DM:  high blood sugars, increase glargine, increase sliding scale.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2117-11-1**] 01:31 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2117-10-28**] 02:14 AM
   Multi Lumen - [**2117-10-28**] 02:58 PM
   Dialysis Catheter - [**2117-10-29**] 01:13 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   Patient with ventricular tachycardia during HD, towards the end.
   Received a synchronized defibrillation once, and then went into an SVT
   which then responded to a bolus of IV adenosine.  He then retured to
   NSR.  Amiodarone drip started and EP consult called.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2117-11-1**] 14:51 ------

2117-11-02 09:01:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   37 yo man with MSSA PNA, septic shock, ARF.  C/b VAP with ESBL
   klebsiella.  Pt. with wide complex
   tachycardia yesterday - EP feels more consistent with SVT with
   aberrancy.
   24 Hour Events:
 FEVER - 102.6
F - [**2117-11-1**] 03:00 PM
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2117-10-31**] 12:00 AM
   Cefipime - [**2117-10-31**] 04:00 AM
   Gentamicin - [**2117-11-1**] 03:18 PM
   Meropenem - [**2117-11-1**] 08:00 PM
   Nafcillin - [**2117-11-2**] 06:12 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 80 mcg/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-11-2**] 12:00 AM
   Famotidine (Pepcid) - [**2117-11-2**] 04:06 AM
   Other medications:
   calcium acetate
   nafcillin
   SSI
   meropenem
   lopressor
   tylenol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-11-2**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 38.8
C (101.8
   HR: 81 (78 - 185) bpm
   BP: 111/43(63) {102/40(57) - 122/59(76)} mmHg
   RR: 25 (23 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 122.1 kg (admission): 119 kg
   Height: 69 Inch
   CVP: 5 (0 - 359)mmHg
   Total In:
                                                                  3,784 mL
                                                                  1,018 mL
   PO:
                                                                     60 mL
   TF:
                                                                    961 mL
                                                                    348 mL
   IVF:
                                                                  2,522 mL
                                                                    490 mL
   Blood products:
   Total out:
                                                                  2,853 mL
                                                                    410 mL
   Urine:
                                                                     53 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    931 mL
                                                                    608 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 4
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   Compliance: 62.5 cmH2O/mL
   SpO2: 97%
   ABG: 7.41/43/120/24/2
   Ve: 13.4 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : left baes)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: improved now
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   261 K/uL
   172 mg/dL
   8.8 mg/dL
   24 mEq/L
   4.5 mEq/L
   84 mg/dL
   97 mEq/L
   137 mEq/L
   26.5 %
   9.5 K/uL
        [image002.jpg]
                            [**2117-11-1**]  03:49 AM
                            [**2117-11-1**]  03:58 AM
                            [**2117-11-1**]  11:13 AM
                            [**2117-11-1**]  01:50 PM
                            [**2117-11-1**]  01:55 PM
                            [**2117-11-1**]  01:58 PM
                             [**2117-11-2**]  02:16 AM
                             [**2117-11-2**]  02:33 AM
                             [**2117-11-2**]  05:09 AM
                             [**2117-11-2**]  06:15 AM
   WBC
   10.3
   11.2
   9.5
   Hct
   30.0
   27.1
   26.5
   Plt
   292
   286
   261
   Cr
   9.4
   7.5
   8.8
   TCO2
   26
   25
   29
   28
   29
   28
   Glucose
   199
   191
   172
   Other labs: PT / PTT / INR:15.0/33.5/1.3, CK / CKMB /
   Troponin-T:550/2/0.21, ALT / AST:50/85, Alk Phos / T Bili:246/2.4,
   Amylase / Lipase:57/, Differential-Neuts:82.0 %, Band:1.0 %, Lymph:10.0
   %, Mono:6.0 %, Eos:1.0 %, Lactic Acid:1.4 mmol/L, Albumin:1.9 g/dL,
   LDH:321 IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
 PNEUMONIA, OTHER
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CARDIAC DYSRHYTHMIA OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   Septic shock:  overall improvement.  Now on nafcillin, meropenem,
   gentamicin.  Will consult ID re: need for double coverage.
   acute renal failure:  getting HD again today after rewire of line
   SVT:  likely AVNRT or AVRT.
   respiratory failure:  continue to try and wean Peep, and if able to
   wean peep, can consider PSV.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2117-11-2**] 02:22 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2117-10-28**] 02:14 AM
   Multi Lumen - [**2117-10-28**] 02:58 PM
   Dialysis Catheter - [**2117-10-29**] 01:13 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Critically ill

2117-11-03 12:35:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   37 yo man with MSSA bactermia/respiratory failure/ARF/VAP
   24 Hour Events:
 FEVER - 101.8
F - [**2117-11-2**] 08:00 AM
   Allergies:
   Last dose of Antibiotics:
   Gentamicin - [**2117-11-1**] 03:18 PM
   Meropenem - [**2117-11-2**] 08:01 PM
   Nafcillin - [**2117-11-2**] 10:13 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-11-3**] 12:27 AM
   Famotidine (Pepcid) - [**2117-11-3**] 04:21 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-11-3**] 12:34 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.6
C (101.5
   HR: 89 (77 - 99) bpm
   BP: 135/63(83) {110/45(65) - 169/81(101)} mmHg
   RR: 17 (17 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 122.1 kg (admission): 119 kg
   Height: 69 Inch
   CVP: 13 (8 - 19)mmHg
   Total In:
                                                                  2,563 mL
                                                                    922 mL
   PO:
                                                                    240 mL
   TF:
                                                                    955 mL
                                                                    173 mL
   IVF:
                                                                  1,188 mL
                                                                    509 mL
   Blood products:
   Total out:
                                                                    427 mL
                                                                    459 mL
   Urine:
                                                                     27 mL
                                                                     59 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,136 mL
                                                                    463 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 4
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 68
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 96%
   ABG: 7.41/42/112/24/1
   Ve: 10.7 L/min
   PaO2 / FiO2: 224
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   255 K/uL
   137 mg/dL
   9.4 mg/dL
   24 mEq/L
   5.0 mEq/L
   96 mg/dL
   97 mEq/L
   137 mEq/L
   26.8 %
   8.8 K/uL
        [image002.jpg]
                             [**2117-11-2**]  02:16 AM
                             [**2117-11-2**]  02:33 AM
                             [**2117-11-2**]  05:09 AM
                             [**2117-11-2**]  06:15 AM
                             [**2117-11-2**]  09:15 AM
                             [**2117-11-2**]  02:25 PM
                             [**2117-11-2**]  09:21 PM
                             [**2117-11-2**]  09:39 PM
                             [**2117-11-3**]  02:55 AM
                             [**2117-11-3**]  03:24 AM
   WBC
   9.5
   8.8
   Hct
   26.5
   26.8
   Plt
   261
   255
   Cr
   8.8
   9.1
   9.4
   TCO2
   28
   29
   28
   28
   27
   26
   28
   Glucose
   172
   146
   137
   Other labs: PT / PTT / INR:13.9/34.0/1.2, CK / CKMB /
   Troponin-T:550/2/0.21, ALT / AST:39/60, Alk Phos / T Bili:197/1.6,
   Amylase / Lipase:57/, Differential-Neuts:82.0 %, Band:1.0 %, Lymph:10.0
   %, Mono:6.0 %, Eos:1.0 %, Lactic Acid:1.4 mmol/L, Albumin:1.9 g/dL,
   LDH:265 IU/L, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:7.6 mg/dL
   Assessment and Plan
 PNEUMONIA, OTHER
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CARDIAC DYSRHYTHMIA OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   Respiratory failure:  continue to wean as tolerated.  Try and switch to
   PSV
   sedation:  try and reduce sedation.
   renal:  needs new HD catheter
   fever:  now on meropenem only for klebsiella.
   tachcardia:  up titrate the lopressor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2117-10-28**] 02:14 AM
   Multi Lumen - [**2117-10-28**] 02:58 PM
   Dialysis Catheter - [**2117-10-29**] 01:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2117-11-04 11:26:00 Physician Attending Progress Note
Chief Complaint: repiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   37 yo man with ARDS/PNA/Septic shock/ARF.  Had new HD catheter and new
   central line placed yesterday.  SVT yesterday broke with diltiazem.
   24 Hour Events:
 DIALYSIS CATHETER - START [**2117-11-3**] 02:00 PM
 MULTI LUMEN - START [**2117-11-3**] 02:00 PM
 MULTI LUMEN - STOP [**2117-11-3**] 02:01 PM
 DIALYSIS CATHETER - STOP [**2117-11-3**] 02:03 PM
   catheter with side port.
 EKG - At [**2117-11-4**] 03:21 AM
 FEVER - 102.1
F - [**2117-11-4**] 12:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2117-11-1**] 03:18 PM
   Nafcillin - [**2117-11-2**] 10:13 PM
   Meropenem - [**2117-11-3**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-11-4**] 12:15 AM
   Metoprolol - [**2117-11-4**] 03:30 AM
   Diltiazem - [**2117-11-4**] 03:37 AM
   Famotidine (Pepcid) - [**2117-11-4**] 04:00 AM
   Other medications:
   hydrocort
   lopressor 12.5po tid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-11-4**] 11:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.3
C (99.1
   HR: 93 (84 - 171) bpm
   BP: 159/78(99) {108/44(64) - 176/84(109)} mmHg
   RR: 27 (17 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 123.8 kg (admission): 119 kg
   Height: 69 Inch
   CVP: 13 (13 - 13)mmHg
   Total In:
                                                                  1,752 mL
                                                                  1,030 mL
   PO:
   TF:
                                                                    533 mL
                                                                    493 mL
   IVF:
                                                                    859 mL
                                                                    297 mL
   Blood products:
   Total out:
                                                                    509 mL
                                                                     27 mL
   Urine:
                                                                    109 mL
                                                                     27 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,243 mL
                                                                  1,003 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (450 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 2
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 46
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 95%
   ABG: 7.44/45/90.[**Numeric Identifier 126**]/28/5
   Ve: 10.7 L/min
   PaO2 / FiO2: 180
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, opens
   eyes to voice
   Labs / Radiology
   8.3 g/dL
   282 K/uL
   187 mg/dL
   8.4 mg/dL
   28 mEq/L
   4.4 mEq/L
   75 mg/dL
   98 mEq/L
   139 mEq/L
   25.1 %
   8.9 K/uL
        [image002.jpg]
                             [**2117-11-2**]  02:25 PM
                             [**2117-11-2**]  09:21 PM
                             [**2117-11-2**]  09:39 PM
                             [**2117-11-3**]  02:55 AM
                             [**2117-11-3**]  03:24 AM
                             [**2117-11-3**]  05:01 PM
                             [**2117-11-3**]  08:53 PM
                             [**2117-11-3**]  10:40 PM
                             [**2117-11-4**]  03:00 AM
                             [**2117-11-4**]  03:37 AM
   WBC
   8.8
   8.9
   Hct
   26.8
   25.1
   Plt
   255
   282
   Cr
   9.1
   9.4
   8.4
   TCO2
   27
   26
   28
   32
   31
   31
   32
   Glucose
   146
   137
   187
   Other labs: PT / PTT / INR:13.9/34.0/1.2, CK / CKMB /
   Troponin-T:550/2/0.21, ALT / AST:39/60, Alk Phos / T Bili:197/1.6,
   Amylase / Lipase:57/, Differential-Neuts:82.0 %, Band:1.0 %, Lymph:10.0
   %, Mono:6.0 %, Eos:1.0 %, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL,
   LDH:265 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:6.9 mg/dL
   Assessment and Plan
 PNEUMONIA, OTHER
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CARDIAC DYSRHYTHMIA OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   Respiratory failure:  Will try another PSV.
   VAP:  On meropenem for Klebs and PSA
   MSSA bacteremia:  covered with meropenem
   SVT:  Increase lopessor
   DM increase sliding scale.
   ARF:  continue daily HD to remove fluid.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2117-11-4**] 02:00 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2117-10-28**] 02:14 AM
   Dialysis Catheter - [**2117-11-3**] 02:00 PM
   Multi Lumen - [**2117-11-3**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 40 minutes
   Critically ill.

2117-11-05 11:15:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   37 yo man with MSSA sepsis, ARDS, renal failure.  Blood cx from [**11-1**]
   with GNRs.
   24 Hour Events:
 FEVER - 101.6
F - [**2117-11-4**] 06:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2117-11-2**] 10:13 PM
   Meropenem - [**2117-11-4**] 08:26 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2117-11-4**] 05:00 PM
   Fentanyl - [**2117-11-4**] 10:45 PM
   Propofol - [**2117-11-4**] 11:14 PM
   Famotidine (Pepcid) - [**2117-11-5**] 03:14 AM
   Insulin - Regular - [**2117-11-5**] 05:07 AM
   Other medications:
   heparin
   pepcid
   SSI
   lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-11-5**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.2
C (100.8
   HR: 94 (81 - 100) bpm
   BP: 172/80(102) {126/47(70) - 187/89(113)} mmHg
   RR: 31 (23 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 123.8 kg (admission): 119 kg
   Height: 69 Inch
             Total In:
                                                                  1,895 mL
                                                                    973 mL
   PO:
             TF:
                                                                  1,083 mL
                                                                    490 mL
   IVF:
                                                                    572 mL
                                                                    483 mL
   Blood products:
   Total out:
                                                                  2,227 mL
                                                                    110 mL
   Urine:
                                                                    227 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -332 mL
                                                                    863 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 490 (455 - 490) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 76
   PIP: 21 cmH2O
   Plateau: 21 cmH2O
   SpO2: 96%
   ABG: 7.42/43/139/23/3
   Ve: 11.3 L/min
   PaO2 / FiO2: 348
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: L>R)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   239 K/uL
   228 mg/dL
   7.0 mg/dL
   23 mEq/L
   4.5 mEq/L
   63 mg/dL
   100 mEq/L
   138 mEq/L
   23.6 %
   7.9 K/uL
        [image002.jpg]
                             [**2117-11-3**]  02:55 AM
                             [**2117-11-3**]  03:24 AM
                             [**2117-11-3**]  05:01 PM
                             [**2117-11-3**]  08:53 PM
                             [**2117-11-3**]  10:40 PM
                             [**2117-11-4**]  03:00 AM
                             [**2117-11-4**]  03:37 AM
                             [**2117-11-4**]  02:49 PM
                             [**2117-11-5**]  01:22 AM
                             [**2117-11-5**]  02:14 AM
   WBC
   8.8
   8.9
   7.9
   Hct
   26.8
   25.1
   23.6
   Plt
   255
   282
   239
   Cr
   9.4
   8.4
   7.0
   TCO2
   28
   32
   31
   31
   32
   29
   29
   Glucose
   137
   187
   228
   Other labs: PT / PTT / INR:13.6/31.4/1.2, CK / CKMB /
   Troponin-T:550/2/0.21, ALT / AST:29/47, Alk Phos / T Bili:166/1.1,
   Amylase / Lipase:57/, Differential-Neuts:78.3 %, Band:1.0 %, Lymph:15.4
   %, Mono:4.5 %, Eos:1.4 %, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL,
   LDH:239 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PNEUMONIA, OTHER
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CARDIAC DYSRHYTHMIA OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   Klebsiella bacteremia:  has another positive blood cx from [**11-1**].  It
   was from the same line, which has now been changed to  the HD cath.
   Will get a culture form it.
   respiratory failure:  wean his peep.
   mental status us likely main barrier to extubation.  Hold all sedation
   and try to wake him up using bolus sedation.
   tachcardia:  doing well on lopressor
   DM: glargine 25.
   increased LFTs:  are all decreasing.  Likely from shock liver.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2117-11-5**] 12:07 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2117-10-28**] 02:14 AM
   Dialysis Catheter - [**2117-11-3**] 02:00 PM
   Multi Lumen - [**2117-11-3**] 02:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2117-11-06 09:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   37 yr old, DM, influenza, ESBL sputum and blood, pseud, MSSA in blood
   and sputum. Daily fevers
   24 Hour Events:
 FEVER - 101.2
F - [**2117-11-5**] 08:00 PM
   Daily fevers
   MS - still unresponsive, withdraws to pain
   Started on labetolol in addition to lopressor
   On rounds, SVT to 160 - given adenosine 5 IV
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2117-11-5**] 08:00 PM
   Infusions:
   Labetalol - 0.1 mg/min
   Fentanyl - 50 mcg/hour
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2117-11-6**] 04:25 AM
   Fentanyl - [**2117-11-6**] 04:27 AM
   Other medications:
   Reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-11-6**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.4
C (101.1
   HR: 88 (84 - 105) bpm
   BP: 145/63(85) {125/51(72) - 183/93(118)} mmHg
   RR: 24 (0 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.8 kg (admission): 119 kg
   Height: 69 Inch
             Total In:
                                                                  2,643 mL
                                                                  1,152 mL
   PO:
             TF:
                                                                  1,084 mL
                                                                    408 mL
   IVF:
                                                                  1,010 mL
                                                                    624 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  4,065 mL
                                                                    130 mL
   Urine:
                                                                    415 mL
                                                                    130 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                 -1,422 mL
                                                                  1,022 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 676 (390 - 676) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 67
   PIP: 12 cmH2O
   SpO2: 96%
   ABG: 7.46/39/84.[**Numeric Identifier 1000**]/25/3
   Ve: 13.4 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, BS faint
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm, Rash: , rash on abd improved
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.2 g/dL
   244 K/uL
   193 mg/dL
   5.5 mg/dL
   25 mEq/L
   4.7 mEq/L
   49 mg/dL
   103 mEq/L
   138 mEq/L
   25.1 %
   8.2 K/uL
        [image002.jpg]
                             [**2117-11-3**]  08:53 PM
                             [**2117-11-3**]  10:40 PM
                             [**2117-11-4**]  03:00 AM
                             [**2117-11-4**]  03:37 AM
                             [**2117-11-4**]  02:49 PM
                             [**2117-11-5**]  01:22 AM
                             [**2117-11-5**]  02:14 AM
                             [**2117-11-5**]  05:01 PM
                             [**2117-11-6**]  02:05 AM
                             [**2117-11-6**]  02:37 AM
   WBC
   8.9
   7.9
   8.2
   Hct
   25.1
   23.6
   25.1
   Plt
   282
   239
   244
   Cr
   8.4
   7.0
   5.5
   TCO2
   31
   31
   32
   29
   29
   28
   29
   Glucose
   187
   228
   193
   Other labs: PT / PTT / INR:13.6/31.4/1.2, CK / CKMB /
   Troponin-T:550/2/0.21, ALT / AST:28/46, Alk Phos / T Bili:153/1.0,
   Amylase / Lipase:57/, Differential-Neuts:78.3 %, Band:1.0 %, Lymph:15.4
   %, Mono:4.5 %, Eos:1.4 %, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL,
   LDH:217 IU/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:6.0 mg/dL
   Microbiology: c diff neg
   [**11-1**] BC from HD line - GNR (pre-line change). 4 surveill cultures
   negative so far
   CXR reviewed. ETT, OG okay. HD line appears in good position
   Assessment and Plan
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PNEUMONIA, OTHER
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CARDIAC DYSRHYTHMIA OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   Septic shock with ESBL klebs bacteremia:  has another positive blood cx
   from [**11-1**].  It was from the same line, which has now been changed to
   the HD cath. Four surveill cultures (taken from CVL, HD and periph
   sources) all negative so far.
   Acute respiratory failure:  wean his peep, did well on PS 5/5. Main
   barrier to extubation is SVT and mental status. Will stop prop and wean
   fent. Try to wake up with bolus sedation prn.
   Tachcardia:  doing well on lopressor, off labetolol. responded to
   adenosine this am for SVT. Will combine increased lopressor and start
   diltiazem.
   ARF - HD on Monday
   DM: glargine 25.
   increased LFTs:  are all decreasing.  Likely from shock liver.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2117-11-5**] 10:14 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2117-10-28**] 02:14 AM
   Dialysis Catheter - [**2117-11-3**] 02:00 PM
   Multi Lumen - [**2117-11-3**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2117-11-07 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.1
F - [**2117-11-6**] 08:00 AM
   - had another run of tachycardia, bp held steady, given 10 dilt and
   then adenosine and then he broke to HR 80s
   - added back dilt and increased metoprolol
   - daily blood cultures until negative, per ID
   - tachy and hypertensive, given 10 IV labetalol early morning, without
   significant effect noted
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2117-11-6**] 08:00 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Diltiazem - [**2117-11-6**] 09:05 AM
   Adenosine - [**2117-11-6**] 09:10 AM
   Heparin Sodium (Prophylaxis) - [**2117-11-7**] 12:32 AM
   Famotidine (Pepcid) - [**2117-11-7**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-11-7**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.9
C (100.3
   HR: 86 (80 - 165) bpm
   BP: 174/87(108) {128/54(78) - 177/87(111)} mmHg
   RR: 38 (17 - 38) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.8 kg (admission): 119 kg
   Height: 69 Inch
             Total In:
                                                                  2,252 mL
                                                                    578 mL
   PO:
             TF:
                                                                  1,036 mL
                                                                    331 mL
   IVF:
                                                                    875 mL
                                                                    186 mL
   Blood products:
   Total out:
                                                                    530 mL
                                                                    220 mL
   Urine:
                                                                    530 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,722 mL
                                                                    359 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 540 (475 - 676) mL
   PS : 8 cmH2O
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 72
   PIP: 17 cmH2O
   SpO2: 95%
   ABG: 7.41/36/86/22/0
   Ve: 13.3 L/min
   PaO2 / FiO2: 215
   Physical Examination
   GEN: Sedated, does not open eyes to command, spontaneously moving legs
   (and arms a bit).
   CV: Tachycardic, regular rate, no m/r/g
   PULM: Mild rales b/l anteriorly
   ABD: obese, +BS, soft, nt, nd
   EXTR; 1+ b/l pedal edema
   Labs / Radiology
   248 K/uL
   8.3 g/dL
   172 mg/dL
   6.5 mg/dL
   22 mEq/L
   4.7 mEq/L
   74 mg/dL
   103 mEq/L
   138 mEq/L
   25.2 %
   8.2 K/uL
        [image002.jpg]
                             [**2117-11-4**]  03:00 AM
                             [**2117-11-4**]  03:37 AM
                             [**2117-11-4**]  02:49 PM
                             [**2117-11-5**]  01:22 AM
                             [**2117-11-5**]  02:14 AM
                             [**2117-11-5**]  05:01 PM
                             [**2117-11-6**]  02:05 AM
                             [**2117-11-6**]  02:37 AM
                             [**2117-11-7**]  04:16 AM
                             [**2117-11-7**]  05:04 AM
   WBC
   8.9
   7.9
   8.2
   8.2
   Hct
   25.1
   23.6
   25.1
   25.2
   Plt
   282
   239
   244
   248
   Cr
   8.4
   7.0
   5.5
   6.5
   TCO2
   32
   29
   29
   28
   29
   24
   Glucose
   187
   228
   193
   172
   Other labs: PT / PTT / INR:13.6/31.4/1.2, CK / CKMB /
   Troponin-T:550/2/0.21, ALT / AST:23/42, Alk Phos / T Bili:132/0.9,
   Amylase / Lipase:57/, Differential-Neuts:78.3 %, Band:1.0 %, Lymph:15.4
   %, Mono:4.5 %, Eos:1.4 %, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL,
   LDH:215 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:8.2 mg/dL
   CXR: pneumonia improving (my read)
   Assessment and Plan
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PNEUMONIA, OTHER
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CARDIAC DYSRHYTHMIA OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   37 y/o with DM presents from OSH after presenting in septic [**Doctor Last Name 281**] with
   Staph PNA / bacteria with a course complicated by ARF and tachycardia,
   currently remains intubated but off pressors since [**2117-10-28**]. Staph in
   blood/sputum (OSH), GNR in blood, klebsiella and pseudomonas in sputum.
   .
   # Septic [**Year (2 digits) 281**]: BP stable off pressors. Culture data positive for MSSA
   in the sputum and blood early in OSH course.  CT scan with L > R
   infiltrates, but no sign of empyema. We broadened antibiotics
   empirically with vanc and cefepime with improvement in the patient
   status.  CT scan did show fluid in sinuses and multi-focal pneumonia
   but no other clear source.  Treated for flu although DFA neg x 2 in
   OSH, with another negative DFA here we stopped Tamiflu.  Elevated mixed
   venous Sat elevated at 84% and mottled appearance most suggestive of
   septic etiology. CVP at 15, hypovolemia unlikely. Robust BP despite
   tachycardia, high mixed venous, and preserved EF on OSH ECHO suggests
   against cardiogenic [**Year (2 digits) 281**]. Given negative urine legionalla and
   prolonged QTc at times, we have avoided using a fluoroquinolone.
   Currently, we are treating for the MSSA found on blood/sputum from OSH,
   Klebsiella pneumoniae and pseudomonas in the sputum from [**Hospital1 19**], GNR in
   blood and radiographic evidence of PNA.  TTE normal, no signs of
   vegetations.  Gram negative rods in blood culture from [**11-1**].
   - Per ID consult, patient changed from nafcillin/meropenem/gent to:
   solely Meropenem (day 1 was [**2117-10-31**]).  Now on day 8. Length of
   hospital course?
 f/u with ID (likely pending presence of negative
   blood cultures first)
   - get culture today from HD line and triple lumen (cultured yesterday
   too), and culture tomorrow (until cultures negative x48 hours, per ID)
   - f/u daily CXR
   - prn Tylenol for fevers
   .
   # Hypoxic Resp failure: Bilateral infiltrates on CXR and high oxygen
   requirement suggestive of ARDS.  Did not have any weaning of his vent
   setting yesterday, other than decreased RR to counteract alkalosis.
   Weaned FiO2 to 40% and now with PEEP of 8.  Too altered for SBT at this
   time despite adequate RSBI
   - Increasing propofol to help with hypertension/tachycardia (see
   below); so will postpone doing an SBT today as feel that increased
   sedation will result in an SBT failure
   - Continue pressure support for today
   -Meropenem as above
   - Daily CXR
   - If anxious d/t intubation, try zyprexa
   .
   # Rash on back, abdomen, thighs: appears consistent with a drug rash,
   could be Vanc or Cefepime, but statistically Cefepime would be more
   likely. Discontinued vanc/cefepime on [**10-31**]; now on meropenem. Improved
   clinically, less erythematous.
   - Monitor
   - Clobetasol [**Hospital1 **] 0.05% for abdomen
   - Clotrimazole/hydro groin cream for rash
   .
   # ARF: Cr currently elevated at 7.8, currently oliguric, which will
   likely continue while he is so sick. Urine output increasing
   considerably over past few days.
   - F/u renal recs
   - No HD today, next planned for Monday
   .
   # Tachycardia/ AFib: appeared sinus on arrival, then through his course
   had couple runs of tachycardia that appeared to be Afib with aberrancy
   that were self-limited and well-tolerated.   OSH EKG with RBBB as
   recently as [**10-26**], and reports of atrial fibrillation requiring
   treatment with diltiazem.  Several days ago, went into AFib w/ RVR
   during dialysis.  Treated w/ lopressor 10, dilt 20 IV and dilt PO60.
   Converted back to sinus after 1-2 hours. Atrial irritation believed due
   to IJ that was too deep, now pulled back.  Cause of aberrant SVT during
   second HD session likely due to intracellular shifts, although cause
   not clear.   24 hour amiodarone has completed. Patient with persistent
   tachycardia and hypertension yesterday & today.
   - Continue diltiazem 30mg qid
   - Continue metoprolol at 125mg tid
   - Watch hemodynamics and rhythm; on telemetry
   - Apply clonidine patch 0.2 (know that there will be a delay before it
   starts affecting BP)
   - Increase propofol until the clonidine patch
s effectiveness increases
   - Adenosine if SVT tonight to see if sinus; if need to [**Last Name (LF) 281**], [**First Name3 (LF) **] so in
   synced mode; adenosine is at bedside; alternatively could also try
   diltiazem is another SVT occurs as that broke it previously too
   - d/c labetalol gtt
   .
   # DM: Blood sugars were elevated, now much better controlled.
   - Increase glargine from 28 to 30, and continue ISS
   .
   OTHER STABLE ISSUES
   .
   # Elevated Troponin: CK elevated, CKMB flat. most likely demand
   ischemia in setting of [**First Name3 (LF) 281**] and persistent tachycardia vs elevated [**1-4**]
   renal failure. ACS given age unlikely, d/c ACS treatment including ASA,
   heparin gtt, plavix. No longer trending cardiac enzymes.
   .
   # Mild LFT elevation: likely [**1-4**] prolonged hypotension.
   Improved/stable.
   - Continue to trend LFTs
   - Limit tylenol to 2 gm daily; changed standing Tylenol to PRN
   FEN; no IVF, lytes prn, on tube feeds nutren at 40cc/hr, HD schedule
   per renal
   Prophylaxis: Subcutaneous heparin, PPI
   Access: right IJ and A line, and HD line.
   Code:  Full code confirmed
   Communication: Mother, [**Name (NI) **] [**Name (NI) 11771**] [**Telephone/Fax (1) 11772**]. HCP name/number
   (ICU RN) on whiteboard in room. Family was updated this morning at
   bedside ([**11-7**]).
   Disposition: pending extubation and clinical improvement.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2117-11-6**] 09:24 PM 45 mL/hour
   Lines:
   Arterial Line - [**2117-10-28**] 02:14 AM
   Dialysis Catheter - [**2117-11-3**] 02:00 PM
   Multi Lumen - [**2117-11-3**] 02:00 PM
   Code status: Full code

2117-11-07 11:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.1
F - [**2117-11-6**] 08:00 AM
   Tachy tx with dilt/adenosine
   Metoprolol doubled last night for hypertension
   Dilt added to regimen
   Daily BCs per ID
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2117-11-6**] 08:00 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-11-7**] 12:32 AM
   Famotidine (Pepcid) - [**2117-11-7**] 05:00 AM
   Other medications:
   reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-11-7**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.8
C (100
   HR: 84 (80 - 94) bpm
   BP: 180/88(108) {144/54(78) - 183/94(117)} mmHg
   RR: 33 (22 - 38) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.8 kg (admission): 119 kg
   Height: 69 Inch
             Total In:
                                                                  2,252 mL
                                                                    872 mL
   PO:
             TF:
                                                                  1,036 mL
                                                                    494 mL
   IVF:
                                                                    875 mL
                                                                    258 mL
   Blood products:
   Total out:
                                                                    530 mL
                                                                    400 mL
   Urine:
                                                                    530 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,722 mL
                                                                    472 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 417 (417 - 540) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 72
   PIP: 17 cmH2O
   SpO2: 99%
   ABG: 7.41/36/86/22/0
   Ve: 13.3 L/min
   PaO2 / FiO2: 215
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Crackles : )
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, Moving toes spontaneously
   Labs / Radiology
   8.3 g/dL
   248 K/uL
   172 mg/dL
   6.5 mg/dL
   22 mEq/L
   4.7 mEq/L
   74 mg/dL
   103 mEq/L
   138 mEq/L
   25.2 %
   8.2 K/uL
         [image002.jpg]
                             [**2117-11-4**]  03:00 AM
                             [**2117-11-4**]  03:37 AM
                             [**2117-11-4**]  02:49 PM
                             [**2117-11-5**]  01:22 AM
                             [**2117-11-5**]  02:14 AM
                             [**2117-11-5**]  05:01 PM
                             [**2117-11-6**]  02:05 AM
                             [**2117-11-6**]  02:37 AM
                             [**2117-11-7**]  04:16 AM
                             [**2117-11-7**]  05:04 AM
   WBC
   8.9
   7.9
   8.2
   8.2
   Hct
   25.1
   23.6
   25.1
   25.2
   Plt
   282
   239
   244
   248
   Cr
   8.4
   7.0
   5.5
   6.5
   TCO2
   32
   29
   29
   28
   29
   24
   Glucose
   187
   228
   193
   172
   Other labs: PT / PTT / INR:13.6/31.4/1.2, CK / CKMB /
   Troponin-T:550/2/0.21, ALT / AST:23/42, Alk Phos / T Bili:132/0.9,
   Amylase / Lipase:57/, Differential-Neuts:78.3 %, Band:1.0 %, Lymph:15.4
   %, Mono:4.5 %, Eos:1.4 %, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL,
   LDH:215 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:8.2 mg/dL
   Assessment and Plan
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PNEUMONIA, OTHER
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CARDIAC DYSRHYTHMIA OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   Septic shock with ESBL klebs bacteremia:  has another positive blood cx
   from [**11-1**].  It was from the same line, which has now been changed to
   the HD cath. Multiple surveill cultures (taken from CVL, HD and periph
   sources) all negative so far. Cont with meropenem
   Acute respiratory failure:  wean his peep, did well on PS 5/5. Main
   barrier to extubation is mental status, volume. Will stop prop and wean
   fent. Try to wake up with bolus sedation prn.
   Hypertension: c/w dilt and metoprolol, add clonidine
   Tachcardia/SVT:  doing well on lopressor, off labetolol. responded to
   adenosine this am for SVT. Will combine increased lopressor and start
   diltiazem.
   ARF - HD tomorrow
   DM: glargine 25.
   increased LFTs:  almost normalized.  Likely from shock liver.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2117-11-7**] 08:28 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Comments: Increase
   glargine, last BS 173
   Lines:
   Arterial Line - [**2117-10-28**] 02:14 AM
   Dialysis Catheter - [**2117-11-3**] 02:00 PM
   Multi Lumen - [**2117-11-3**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2117-11-08 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: septic [** 281**], ARDS
   24 Hour Events:
   - surveillance cultures on [**11-7**] not drawn for some reason- rechecked
   that order was in.  Cultures from [**11-5**] and [**11-6**] negative.  Make sure
   cultures get drawn [**11-8**]
   - started on clonidine patch and hydral bridge
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2117-11-7**] 08:01 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-11-7**] 11:30 PM
   Famotidine (Pepcid) - [**2117-11-8**] 04:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-11-8**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.9
C (100.3
   HR: 86 (76 - 94) bpm
   BP: 167/65(89) {142/54(76) - 192/99(122)} mmHg
   RR: 24 (19 - 40) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.8 kg (admission): 119 kg
   Height: 69 Inch
             Total In:
                                                                  2,262 mL
                                                                    617 mL
   PO:
             TF:
                                                                  1,086 mL
                                                                    295 mL
   IVF:
                                                                    806 mL
                                                                    292 mL
   Blood products:
   Total out:
                                                                  1,105 mL
                                                                    375 mL
   Urine:
                                                                  1,105 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,157 mL
                                                                    242 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 0 (0 - 388) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 28 cmH2O
   Plateau: 25 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 98%
   ABG: 7.44/35/86/22/0
   Ve: 12 L/min
   PaO2 / FiO2: 215
   Physical Examination
   GEN: Sedated, does not open eyes to command, spontaneously moving legs
   (and arms a bit).
   CV: Tachycardic, regular rate, no m/r/g
   PULM: Mild rales b/l anteriorly
   ABD: obese, +BS, soft, nt, nd
   EXTR; 1+ b/l pedal edema
   Labs / Radiology
   277 K/uL
   7.8 g/dL
   193 mg/dL
   6.4 mg/dL
   22 mEq/L
   4.6 mEq/L
   85 mg/dL
   102 mEq/L
   138 mEq/L
   23.8 %
   7.7 K/uL
        [image002.jpg]
                             [**2117-11-4**]  02:49 PM
                             [**2117-11-5**]  01:22 AM
                             [**2117-11-5**]  02:14 AM
                             [**2117-11-5**]  05:01 PM
                             [**2117-11-6**]  02:05 AM
                             [**2117-11-6**]  02:37 AM
                             [**2117-11-7**]  04:16 AM
                             [**2117-11-7**]  05:04 AM
                             [**2117-11-7**]  03:01 PM
                             [**2117-11-8**]  03:38 AM
   WBC
   7.9
   8.2
   8.2
   7.7
   Hct
   23.6
   25.1
   25.2
   23.8
   Plt
   [**Telephone/Fax (3) 11954**]77
   Cr
   7.0
   5.5
   6.5
   6.4
   TCO2
   29
   29
   28
   29
   24
   25
   Glucose
   [**Telephone/Fax (3) 11955**]93
   Other labs: PT / PTT / INR:13.6/31.4/1.2, CK / CKMB /
   Troponin-T:550/2/0.21, ALT / AST:23/42, Alk Phos / T Bili:132/0.9,
   Amylase / Lipase:57/, Differential-Neuts:78.3 %, Band:1.0 %, Lymph:15.4
   %, Mono:4.5 %, Eos:1.4 %, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL,
   LDH:215 IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:8.4 mg/dL
   Imaging:
   CXR [**2117-11-8**] done
   CXR [**2114-11-7**]:  In comparison with the study of [**11-6**], there is probably
   little
   overall change. Monitoring and support devices remain in place.
   Extensive
   opacification in the lower half of the left lung is again seen. Again
   this is
   probably consistent with pneumonia and pleural effusion. Small amount
   of
   opacification at the right base most likely represents atelectasis.
   Microbiology: B Cxrs from [**11-5**], [**11-6**], [**11-8**] pending
   [**2117-11-1**] 10:47 am BLOOD CULTURE      Source: Line- CVP. Blood Culture,
   Routine (Final [**2117-11-7**]):  KLEBSIELLA PNEUMONIAE. ESBL.
   [**2117-11-1**] 10:48 am SPUTUM      Source: Endotracheal.   KLEBSIELLA
   PNEUMONIAE.  ESBL.  MODERATE GROWTH.   PSEUDOMONAS AERUGINOSA
   Assessment and Plan
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PNEUMONIA, OTHER
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CARDIAC DYSRHYTHMIA OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   37 y/o with DM presents from OSH after presenting in septic [**Doctor Last Name 281**] with
   Staph PNA / bacteria with a course complicated by ARF and tachycardia,
   currently remains intubated but off pressors since [**2117-10-28**]. Staph in
   blood/sputum (OSH), GNR in blood, klebsiella and pseudomonas in
   sputum.  Has gone into SVT (wide complex) in the past, resolved with
   adenosine.
   .
   # Septic [**Year (2 digits) 281**]: BP stable off pressors. Culture data positive for MSSA
   in the sputum and blood early in OSH course.  CT scan with L > R
   infiltrates, but no sign of empyema. We broadened antibiotics
   empirically with vanc and cefepime with improvement in the patient
   status.  CT scan did show fluid in sinuses and multi-focal pneumonia
   but no other clear source.  Treated for flu although DFA neg x 2 in
   OSH, with another negative DFA here we stopped Tamiflu.  Elevated mixed
   venous Sat elevated at 84% and mottled appearance most suggestive of
   septic etiology. CVP at 15, hypovolemia unlikely. Robust BP despite
   tachycardia, high mixed venous, and preserved EF on OSH ECHO suggests
   against cardiogenic [**Year (2 digits) 281**]. Given negative urine legionalla and
   prolonged QTc at times, we have avoided using a fluoroquinolone.
   Currently, we are treating for the MSSA found on blood/sputum from OSH,
   Klebsiella pneumoniae and pseudomonas in the sputum from [**Hospital1 19**], GNR in
   blood and radiographic evidence of PNA.  TTE normal, no signs of
   vegetations.  Gram negative rods in blood culture from [**11-1**].
   - Per ID consult, patient changed from nafcillin/meropenem/gent to:
   solely Meropenem (day 1 was [**2117-10-31**]).  Now on day 9. Length of
   hospital course?
 f/u with ID (likely pending presence of negative
   blood cultures first)
   - get culture today from HD line and triple lumen (cultured the prior
   two days too), and culture tomorrow (until cultures negative x48 hours,
   per ID)
   - f/u daily CXR
   - prn Tylenol for fevers
   .
   # Hypoxic Resp failure: Bilateral infiltrates on CXR and high oxygen
   requirement suggestive of ARDS.  Did not have any weaning of his vent
   setting yesterday, other than decreased RR to counteract alkalosis.
   Weaned FiO2 to 40% and now with PEEP of 8.  Too altered for SBT at this
   time despite adequate RSBI
   - Increasing propofol to help with hypertension/tachycardia (see
   below); so will postpone doing an SBT today as feel that increased
   sedation will result in an SBT failure
   - Continue pressure support for today, attempt to decr PEEP to 7 and
   re-eval.
   -Meropenem as above
   - Daily CXR
   - If anxious d/t intubation, try zyprexa
   .
   # Rash on back, abdomen, thighs: appears consistent with a drug rash,
   could be Vanc or Cefepime, but statistically Cefepime would be more
   likely. Discontinued vanc/cefepime on [**10-31**]; now on meropenem. Improved
   clinically, less erythematous.
   - Monitor
   - Clobetasol [**Hospital1 **] 0.05% for abdomen
   - Clotrimazole/hydro groin cream for rash
   .
   # ARF: Cr currently elevated at 7.8, currently oliguric, which will
   likely continue while he is so sick. Urine output increasing
   considerably over past few days.
   - F/u renal recs
   - No HD today, next planned for Monday
   .
   # Tachycardia/ AFib: appeared sinus on arrival, then through his course
   had couple runs of tachycardia that appeared to be Afib with aberrancy
   that were self-limited and well-tolerated.   OSH EKG with RBBB as
   recently as [**10-26**], and reports of atrial fibrillation requiring
   treatment with diltiazem.  Several days ago, went into AFib w/ RVR
   during dialysis.  Treated w/ lopressor 10, dilt 20 IV and dilt PO60.
   Converted back to sinus after 1-2 hours. Atrial irritation believed due
   to IJ that was too deep, now pulled back.  Cause of aberrant SVT during
   second HD session likely due to intracellular shifts, although cause
   not clear.   24 hour amiodarone has completed. Patient with persistent
   tachycardia and hypertension yesterday & today.
   - Continue diltiazem 30mg qid
   - Continue metoprolol at 125mg tid
   - Watch hemodynamics and rhythm; on telemetry
   - Adenosine if SVT tonight to see if sinus; if need to [**Last Name (LF) 281**], [**First Name3 (LF) **] so in
   synced mode; adenosine is at bedside; alternatively could also try
   diltiazem is another SVT occurs as that broke it previously too
   - d/c labetalol gtt
   .
   # Hypertension
   - Apply clonidine patch 0.2 (know that there will be a delay before it
   starts affecting BP)
   - Increase propofol until the clonidine patch
s effectiveness increases
   - Cont Dilt and Metop.
   - Start Amlodipine 5mg PO daily.
   .
   # DM: Blood sugars were elevated, now much better controlled.
   - Increase glargine from 28 to 30, and continue ISS
   .
   OTHER STABLE ISSUES
   .
   # Elevated Troponin: CK elevated, CKMB flat. most likely demand
   ischemia in setting of [**First Name3 (LF) 281**] and persistent tachycardia vs elevated [**1-4**]
   renal failure. ACS given age unlikely, d/c ACS treatment including ASA,
   heparin gtt, plavix. No longer trending cardiac enzymes.
   .
   # Mild LFT elevation: likely [**1-4**] prolonged hypotension.
   Improved/stable.
   - Continue to trend LFTs
   - Limit tylenol to 2 gm daily; changed standing Tylenol to PRN
   FEN; no IVF, lytes prn, on tube feeds nutren at 40cc/hr, HD schedule
   per renal
   Prophylaxis: Subcutaneous heparin, PPI
   Access: right IJ and A line, and HD line.
   Code:  Full code confirmed
   Communication: Mother, [**Name (NI) **] [**Name (NI) 11771**] [**Telephone/Fax (1) 11772**]. HCP name/number
   (ICU RN) on whiteboard in room. Family was updated yesterday morning at
   bedside ([**11-7**]).
   Disposition: pending extubation and clinical improvement.

2117-11-08 12:46:00 Physician Attending Progress Note
Chief Complaint: Kelbsiella pneumonia, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2117-11-8**] 06:11 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2117-11-7**] 08:01 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2117-11-8**] 04:16 AM
   Heparin Sodium (Prophylaxis) - [**2117-11-8**] 08:00 AM
   Other medications:
   per ICU resident
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley, Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-11-8**] 12:45 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.7
C (99.8
   HR: 79 (76 - 94) bpm
   BP: 169/72(94) {142/54(76) - 180/83(106)} mmHg
   RR: 23 (19 - 40) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.8 kg (admission): 119 kg
   Height: 69 Inch
             Total In:
                                                                  2,262 mL
                                                                  1,016 mL
   PO:
             TF:
                                                                  1,086 mL
                                                                    565 mL
   IVF:
                                                                    806 mL
                                                                    422 mL
   Blood products:
   Total out:
                                                                  1,105 mL
                                                                    795 mL
   Urine:
                                                                  1,105 mL
                                                                    795 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,157 mL
                                                                    221 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/35/86/22/0
   Ve: 15 L/min
   PaO2 / FiO2: 215
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   277 K/uL
   193 mg/dL
   6.4 mg/dL
   22 mEq/L
   4.6 mEq/L
   85 mg/dL
   102 mEq/L
   138 mEq/L
   23.8 %
   7.7 K/uL
        [image002.jpg]
                             [**2117-11-4**]  02:49 PM
                             [**2117-11-5**]  01:22 AM
                             [**2117-11-5**]  02:14 AM
                             [**2117-11-5**]  05:01 PM
                             [**2117-11-6**]  02:05 AM
                             [**2117-11-6**]  02:37 AM
                             [**2117-11-7**]  04:16 AM
                             [**2117-11-7**]  05:04 AM
                             [**2117-11-7**]  03:01 PM
                             [**2117-11-8**]  03:38 AM
   WBC
   7.9
   8.2
   8.2
   7.7
   Hct
   23.6
   25.1
   25.2
   23.8
   Plt
   [**Telephone/Fax (3) 11954**]77
   Cr
   7.0
   5.5
   6.5
   6.4
   TCO2
   29
   29
   28
   29
   24
   25
   Glucose
   [**Telephone/Fax (3) 11955**]93
   Other labs: PT / PTT / INR:13.6/31.4/1.2, CK / CKMB /
   Troponin-T:550/2/0.21, ALT / AST:23/42, Alk Phos / T Bili:132/0.9,
   Amylase / Lipase:57/, Differential-Neuts:78.3 %, Band:1.0 %, Lymph:15.4
   %, Mono:4.5 %, Eos:1.4 %, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL,
   LDH:215 IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:8.4 mg/dL
   Assessment and Plan
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PNEUMONIA, OTHER
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CARDIAC DYSRHYTHMIA OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   37 yo man with DM, here respiratory failure from ESBL Klebsiella
   Septic shock with ESBL klebs bacteremia:  Cont meropenem
   Acute respiratory failure:  Will try to wean PEEP today, on FIO2 of
   .4.  Weaning sedation [**First Name8 (NamePattern2) **] [**Last Name (un) **] barrier to extubation.
   Hypertension: c/w dilt and metoprolol, clonidine
   Tachcardia/SVT:  dilt and metoprolol
   ARF - HD today
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2117-11-8**] 06:33 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2117-10-28**] 02:14 AM
   Dialysis Catheter - [**2117-11-3**] 02:00 PM
   Multi Lumen - [**2117-11-3**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2117-11-09 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: pneumonia, speptic [** 281**]
   24 Hour Events:
   - Started Amlodipine 5mg to improve HTN control. Now on Propofol drip,
   Dilt, Metoprolol, Clonidine patch, Hydralazine and Amlodipine.
   - dialyzed yesterday
   - On pressure support ventilation
   - pt has had increasing urine output, which began to drop off so
   received 500cc NS (30-40cc/hour)
   - per respiratory, RSBI-38, however when pt was placed on RSBI he
   became very hypertensive. MAPS rose from 90's to 120's within 5 minutes
   so SBT was stopped. Pt also had pronounced active exhalation.  Pt was
   also weaned from 8 to 5 of peep which was not tolerated again by HTN so
   peep was increased back to 8.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2117-11-7**] 08:01 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-11-8**] 08:00 AM
   Other medications:
   ISS 20U insulin given in 24 hrs
   Flowsheet Data as of  [**2117-11-9**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.7
C (99.9
   HR: 83 (77 - 90) bpm
   BP: 153/69(90) {123/43(65) - 185/89(113)} mmHg
   RR: 28 (19 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.8 kg (admission): 119 kg
   Height: 69 Inch
             Total In:
                                                                  1,891 mL
                                                                  1,068 mL
   PO:
             TF:
                                                                  1,087 mL
                                                                    319 mL
   IVF:
                                                                    775 mL
                                                                    600 mL
   Blood products:
   Total out:
                                             1,090 mL + 1L taken off by HD
                                                                    275 mL
   Urine:
                                                                  1,090 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                         801mL
 1L from HD (199 mL neg)
                                                                    793 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 616 (410 - 674) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 17 cmH2O
   Plateau: 22 cmH2O
   SpO2: 96%
   ABG: 7.48/37/120/26/5
   Ve: 12 L/min
   PaO2 / FiO2: 300
   Physical Examination
   GEN: Sedated, tracking, PERRL 2->1mm
   CV: regular rate, no m/r/g
   PULM: fairly clear, few crackles bilat bases w. few scattered wheezes,
   mod amt of white/yello purulent sputum suctioned by resp
   ABD: obese, +BS, soft, nt, nd
   EXTR; 1+ b/l pedal edema, puffy hands/face
   Labs / Radiology
   277 K/uL
   7.5 g/dL
   186 mg/dL
   4.0 mg/dL
   26 mEq/L
   4.1 mEq/L
   51 mg/dL
   100 mEq/L
   139 mEq/L
   23.4 %
   6.8 K/uL
        [image002.jpg]
                             [**2117-11-5**]  05:01 PM
                             [**2117-11-6**]  02:05 AM
                             [**2117-11-6**]  02:37 AM
                             [**2117-11-7**]  04:16 AM
                             [**2117-11-7**]  05:04 AM
                             [**2117-11-7**]  03:01 PM
                             [**2117-11-8**]  03:38 AM
                             [**2117-11-8**]  03:04 PM
                             [**2117-11-9**]  12:42 AM
                             [**2117-11-9**]  03:43 AM
   WBC
   8.2
   8.2
   7.7
   6.8
   Hct
   25.1
   25.2
   23.8
   23.4
   Plt
   244
   248
   277
   277
   Cr
   5.5
   6.5
   6.4
   4.0
   TCO2
   28
   29
   24
   25
   28
   29
   Glucose
   193
   172
   193
   163
   186
   Other labs: PT / PTT / INR:13.6/31.2/1.2, CK / CKMB /
   Troponin-T:550/2/0.21, ALT / AST:23/42, Alk Phos / T Bili:132/0.9,
   Amylase / Lipase:57/, Differential-Neuts:78.3 %, Band:1.0 %, Lymph:15.4
   %, Mono:4.5 %, Eos:1.4 %, Lactic Acid:1.5 mmol/L, Albumin:1.9 g/dL,
   LDH:215 IU/L, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL, PO4:5.6 mg/dL
   Imaging: CXR [**2117-11-8**] No significant change of the left lower lobe
   opacification or right basilar
   atalectasis.
   Microbiology: B cxrs [**11-5**], [**11-6**], [**11-8**], [**11-9**] pending
   B cxr [**11-1**] KLEBSIELLA PNEUMONIAE.
   Legionella urine negative
   Assessment and Plan
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PNEUMONIA, OTHER
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CARDIAC DYSRHYTHMIA OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   37 y/o with DM presents from OSH after presenting in septic [**Doctor Last Name 281**] with
   Staph PNA / bacteria with a course complicated by ARF and tachycardia,
   currently remains intubated but off pressors since [**2117-10-28**]. Staph in
   blood/sputum (OSH), GNR in blood, klebsiella and pseudomonas in
   sputum.  Has gone into SVT (wide complex) in the past, resolved with
   adenosine.
   .
   # Septic [**Year (2 digits) 281**]: BP stable off pressors. Culture data positive for MSSA
   in the sputum and blood early in OSH course.  CT scan with L > R
   infiltrates, but no sign of empyema. We broadened antibiotics
   empirically with vanc and cefepime with improvement in the patient
   status.  CT scan did show fluid in sinuses and multi-focal pneumonia
   but no other clear source.  Treated for flu although DFA neg x 2 in
   OSH, with another negative DFA here we stopped Tamiflu.  Elevated mixed
   venous Sat elevated at 84% and mottled appearance most suggestive of
   septic etiology. CVP at 15, hypovolemia unlikely. Robust BP despite
   tachycardia, high mixed venous, and preserved EF on OSH ECHO suggests
   against cardiogenic [**Year (2 digits) 281**]. Given negative urine legionalla and
   prolonged QTc at times, we have avoided using a fluoroquinolone.
   Currently, we are treating for the MSSA found on blood/sputum from OSH,
   Klebsiella pneumoniae and pseudomonas in the sputum from [**Hospital1 19**], GNR in
   blood and radiographic evidence of PNA.  TTE normal, no signs of
   vegetations.  Gram negative rods in blood culture from [**11-1**].
   - Per ID consult, patient changed from nafcillin/meropenem/gent to:
   solely Meropenem (day 1 was [**2117-10-31**]).  Now on day 9. Length of
   hospital course?
 f/u with ID (likely pending presence of negative
   blood cultures first)
   - get cultures daily from HD line and triple lumen (until cultures
   negative x48 hours, per ID)
   - f/u daily CXR
   - prn Tylenol for fevers
   .
   # Hypoxic Resp failure: Bilateral infiltrates on CXR and high oxygen
   requirement suggestive of ARDS.  Did not have any weaning of his vent
   setting yesterday, other than decreased RR to counteract alkalosis.
   Weaned FiO2 to 40% and now with PEEP of 8.
   - Increasing propofol to help with hypertension/tachycardia (see
   below).
   - Continue pressure support for today, attempt to decr PEEP to 7 and
   re-eval.
   -Meropenem as above
   - Daily CXR
   - If anxious d/t intubation, try zyprexa
   - Will decrease fentanyl, propofol and start precedex x 24 hours to
   attempt to extubate tomorrow
   .
   # Rash on back, abdomen, thighs: appears consistent with a drug rash,
   could be Vanc or Cefepime, but statistically Cefepime would be more
   likely. Discontinued vanc/cefepime on [**10-31**]; now on meropenem. Improved
   clinically, less erythematous.
   - Monitor
   - Clobetasol [**Hospital1 **] 0.05% for abdomen
   - Clotrimazole/hydro groin cream for rash
   .
   # ARF: Cr currently elevated at 7.8, currently oliguric, which will
   likely continue while he is so sick. Urine output increasing
   considerably over past few days.
   - F/u renal recs, HD per renal.
   - HD yesterday.
   - Per renal recs, will give PRN Lasix to keep total daily UOP > 500 mL.
   .
   # Tachycardia/ AFib: appeared sinus on arrival, then through his course
   had couple runs of tachycardia that appeared to be Afib with aberrancy
   that were self-limited and well-tolerated.   OSH EKG with RBBB as
   recently as [**10-26**], and reports of atrial fibrillation requiring
   treatment with diltiazem.  Several days ago, went into AFib w/ RVR
   during dialysis.  Treated w/ lopressor 10, dilt 20 IV and dilt PO60.
   Converted back to sinus after 1-2 hours. Atrial irritation believed due
   to IJ that was too deep, now pulled back.  Cause of aberrant SVT during
   second HD session likely due to intracellular shifts, although cause
   not clear.   24 hour amiodarone has completed. Patient with persistent
   tachycardia and hypertension yesterday & today.
   - Adenosine if SVT tonight to see if sinus; if need to [**Last Name (LF) 281**], [**First Name3 (LF) **] so in
   synced mode; adenosine is at bedside; alternatively could also try
   diltiazem is another SVT occurs as that broke it previously too.
   - Continue diltiazem 30mg qid
   - Continue metoprolol at 125mg tid
   - Increase amlodipine to 10mg daily.
   - Continue hydralazine 500mg Q6 hrs
   - Watch hemodynamics and rhythm; on telemetry
   .
   # Hypertension
   - Continue clonidine patch 0.2 (know that there will be a delay before
   it starts affecting BP)
   - Increase propofol until the clonidine patch
s effectiveness increases
   - Cont Dilt and Metop.
   - Increase Amlodipine to 10 mg PO daily.
   .
   # DM: Blood sugars were elevated, now much better controlled.
   - glargine increased to 40 QD, and continue ISS
   .
   OTHER STABLE ISSUES
   .
   # Elevated Troponin: CK elevated, CKMB flat. most likely demand
   ischemia in setting of [**First Name3 (LF) 281**] and persistent tachycardia vs elevated [**1-4**]
   renal failure. ACS given age unlikely, d/c ACS treatment including ASA,
   heparin gtt, plavix. No longer trending cardiac enzymes.
   .
   # Mild LFT elevation: likely [**1-4**] prolonged hypotension.
   Improved/stable.
   - Continue to trend LFTs
   - Limit tylenol to 2 gm daily; changed standing Tylenol to PRN
   .
   FEN; no IVF, lytes prn, on tube feeds nutren at 40cc/hr, HD schedule
   per renal
   Prophylaxis: Subcutaneous heparin, PPI
   Access: right IJ and A line, and HD line.
   Code:  Full code confirmed
   Communication: Mother, [**Name (NI) **] [**Name (NI) 11771**] [**Telephone/Fax (1) 11772**]. HCP name/number
   (ICU RN) on whiteboard in room. Family was updated yesterday morning at
   bedside ([**11-7**]).
   Disposition: pending extubation and clinical improvement.

2117-11-09 10:47:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, ESBL Klebsiella pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Had RSBI of 38, but then became very agitated with SBT and holding
   sedation
   24 Hour Events:
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2117-11-7**] 08:01 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-11-9**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 88 (77 - 93) bpm
   BP: 175/89(115) {123/43(65) - 185/89(115)} mmHg
   RR: 19 (19 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.8 kg (admission): 119 kg
   Height: 69 Inch
             Total In:
                                                                  1,891 mL
                                                                  1,375 mL
   PO:
             TF:
                                                                  1,087 mL
                                                                    478 mL
   IVF:
                                                                    775 mL
                                                                    657 mL
   Blood products:
   Total out:
                                                                  1,090 mL
                                                                    460 mL
   Urine:
                                                                  1,090 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    801 mL
                                                                    915 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 595 (410 - 674) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 17 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: 7.48/37/120/26/5
   Ve: 15.1 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   277 K/uL
   186 mg/dL
   4.0 mg/dL
   26 mEq/L
   4.1 mEq/L
   51 mg/dL
   100 mEq/L
   139 mEq/L
   23.4 %
   6.8 K/uL
        [image002.jpg]
                             [**2117-11-5**]  05:01 PM
                             [**2117-11-6**]  02:05 AM
                             [**2117-11-6**]  02:37 AM
                             [**2117-11-7**]  04:16 AM
                             [**2117-11-7**]  05:04 AM
                             [**2117-11-7**]  03:01 PM
                             [**2117-11-8**]  03:38 AM
                             [**2117-11-8**]  03:04 PM
                             [**2117-11-9**]  12:42 AM
                             [**2117-11-9**]  03:43 AM
   WBC
   8.2
   8.2
   7.7
   6.8
   Hct
   25.1
   25.2
   23.8
   23.4
   Plt
   244
   248
   277
   277
   Cr
   5.5
   6.5
   6.4
   4.0
   TCO2
   28
   29
   24
   25
   28
   29
   Glucose
   193
   172
   193
   163
   186
   Other labs: PT / PTT / INR:13.6/31.2/1.2, CK / CKMB /
   Troponin-T:550/2/0.21, ALT / AST:23/42, Alk Phos / T Bili:132/0.9,
   Amylase / Lipase:57/, Differential-Neuts:78.3 %, Band:1.0 %, Lymph:15.4
   %, Mono:4.5 %, Eos:1.4 %, Lactic Acid:1.5 mmol/L, Albumin:1.9 g/dL,
   LDH:215 IU/L, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PNEUMONIA, OTHER
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CARDIAC DYSRHYTHMIA OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   37 yo man with DM, here respiratory failure from ESBL Klebsiella
   Septic shock with ESBL klebs bacteremia:  Cont meropenem
   Acute respiratory failure:  Agitated today with SBT.  RSBI quite good -
   will try 24 hr trial of Precidex to facilitate extubation
   Hypertension: c/w dilt and metoprolol, clonidine
   Tachcardia/SVT:  dilt and metoprolol
   ARF - HD per renal.  Is having some modest urine output.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2117-11-9**] 04:36 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2117-10-28**] 02:14 AM
   Dialysis Catheter - [**2117-11-3**] 02:00 PM
   Multi Lumen - [**2117-11-3**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2117-11-10 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: pneumonia, respiratory failure
   24 Hour Events:
   - per ID, treat with 14 total days Meropenem since first negative blood
   culture = course should be from [**11-5**] to [**11-19**]
   - renal recommends starting epogen 10,000 units SQ twice a week
   - on presedex x 1 ay to decr sedation in preparation for extubation
   -good UO
   - febrile to 101 o/n, tachypneic in that setting with decreased tidal
   volumes - pan cultured
   - very uncomfortable when went down on pressure support
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2117-11-9**] 07:58 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2117-11-10**] 04:00 AM
   Other medications:
   Flowsheet Data as of  [**2117-11-10**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.7
C (99.8
   HR: 95 (71 - 95) bpm
   BP: 181/86(114) {123/43(64) - 181/89(115)} mmHg
   RR: 26 (15 - 31) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.8 kg (admission): 119 kg
   Height: 69 Inch
             Total In:
                                                                  2,858 mL
                                                                    468 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    288 mL
   IVF:
                                                                  1,225 mL
                                                                    151 mL
   Blood products:
   Total out:
                                                                  1,170 mL
                                                                  1,320 mL
   Urine:
                                                                  1,170 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,688 mL
                                                                   -852 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 573 (428 - 688) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 39
   PIP: 14 cmH2O
   SpO2: 92%
   ABG: 7.47/36/126/26/3
   Ve: 14 L/min
   PaO2 / FiO2: 315
   Physical Examination
   GEN: PERRL 2->1mm, following commands, tracking to name
   CV: regular rate, no m/r/g
   PULM: few crackles bilat bases
   ABD: obese, +BS, soft, nt, mild distension but no rigidity
   EXTR; 2+ b/l U&LE
   Labs / Radiology
   318 K/uL
   8.1 g/dL
   226 mg/dL
   4.3 mg/dL
   26 mEq/L
   3.8 mEq/L
   59 mg/dL
   103 mEq/L
   139 mEq/L
   23.5 %
   7.3 K/uL
        [image002.jpg]
                             [**2117-11-7**]  05:04 AM
                             [**2117-11-7**]  03:01 PM
                             [**2117-11-8**]  03:38 AM
                             [**2117-11-8**]  03:04 PM
                             [**2117-11-9**]  12:42 AM
                             [**2117-11-9**]  03:43 AM
                             [**2117-11-9**]  03:01 PM
                             [**2117-11-9**]  04:38 PM
                             [**2117-11-10**]  02:44 AM
                             [**2117-11-10**]  02:46 AM
   WBC
   7.7
   6.8
   7.3
   Hct
   23.8
   23.4
   23.5
   Plt
   277
   277
   318
   Cr
   6.4
   4.0
   3.4
   4.3
   TCO2
   24
   25
   28
   29
   28
   27
   Glucose
   193
   163
   186
   226
   Other labs: PT / PTT / INR:13.6/31.2/1.2, CK / CKMB /
   Troponin-T:550/2/0.21, ALT / AST:23/42, Alk Phos / T Bili:132/0.9,
   Amylase / Lipase:57/, Differential-Neuts:78.3 %, Band:1.0 %, Lymph:15.4
   %, Mono:4.5 %, Eos:1.4 %, Lactic Acid:1.5 mmol/L, Albumin:1.9 g/dL,
   LDH:215 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:5.6 mg/dL
   Imaging: CXR [**11-10**] done
   CXR [**11-9**] Persistent pneumonic infiltrate mostly in left lower lung
   field.
   No pneumothorax or other abnormalities.
   Microbiology: B cxrs [**11-5**], [**11-6**], [**11-8**], [**11-9**], [**11-10**] pending
   [**11-9**] Sputum gram stain - + GNRs,
   Cxr - pending
   Assessment and Plan
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PNEUMONIA, OTHER
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CARDIAC DYSRHYTHMIA OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   37 y/o with DM presents from OSH after presenting in septic [**Doctor Last Name 281**] with
   Staph PNA / bacteria with a course complicated by ARF and tachycardia,
   currently remains intubated but off pressors since [**2117-10-28**]. Staph in
   blood/sputum (OSH), GNR in blood, klebsiella and pseudomonas in
   sputum.  Has gone into SVT (wide complex) in the past, resolved with
   adenosine.
   .
   # Septic [**Year (2 digits) 281**]/Pneumonia: BP stable off pressors. Culture data positive
   for MSSA in the sputum and blood early in OSH course.  CT scan with L >
   R infiltrates, but no sign of empyema. We broadened antibiotics
   empirically with vanc and cefepime with improvement in the patient
   status.  CT scan did show fluid in sinuses and multi-focal pneumonia
   but no other clear source.  Treated for flu although DFA neg x 2 in
   OSH, with another negative DFA here we stopped Tamiflu.  Elevated mixed
   venous Sat elevated at 84% and mottled appearance most suggestive of
   septic etiology. CVP at 15, hypovolemia unlikely. Robust BP despite
   tachycardia, high mixed venous, and preserved EF on OSH ECHO suggests
   against cardiogenic [**Year (2 digits) 281**]. Given negative urine legionalla and
   prolonged QTc at times, we have avoided using a fluoroquinolone.
   Currently, we are treating for the MSSA found on blood/sputum from OSH,
   Klebsiella pneumoniae and pseudomonas in the sputum from [**Hospital1 19**], GNR in
   blood and radiographic evidence of PNA.  TTE normal, no signs of
   vegetations.  Gram negative rods in blood culture from [**11-1**].
   - Per ID consult, patient changed from nafcillin/meropenem/gent to:
   solely Meropenem (day 1 was [**2117-10-31**]).  Now on day 9. Will treat with
   14 total days Meropenem since first negative blood culture = course
   should be from [**11-5**] to [**11-19**].
   - get cultures daily from HD line and triple lumen (until cultures
   negative x48 hours, per ID)
   - Requested speciation and sensitivities of GNRs in sputum cxr, as
   concern for treatment failure given growth while pt on appropriate abx
   therapy.
   - f/u daily CXR
   - prn Tylenol for fevers
   .
   # Hypoxic Resp failure: Bilateral infiltrates on CXR and high oxygen
   requirement suggestive of ARDS.  Did not have any weaning of his vent
   setting yesterday, other than decreased RR to counteract alkalosis.
   Weaned FiO2 to 40% and now with PEEP of 8.  Now intubated 18 days
   ([**11-10**]).
   -Meropenem as above
   - Daily CXR
   - If anxious d/t intubation, try zyprexa
   - Will decrease fentanyl, propofol and start precedex x 24 hours to
   attempt to extubate today.
   .
   # Rash on back, abdomen, thighs: appears consistent with a drug rash,
   could be Vanc or Cefepime, but statistically Cefepime would be more
   likely. Discontinued vanc/cefepime on [**10-31**]; now on meropenem. Improved
   clinically, less erythematous.
   - Monitor
   - Clobetasol [**Hospital1 **] 0.05% for abdomen
   - Clotrimazole/hydro groin cream for rash
   .
   # ARF: Cr currently elevated at 7.8, currently oliguric, which will
   likely continue while he is so sick. Urine output increasing
   considerably over past few days.
   - F/u renal recs, HD per renal.
   - HD on Monday.
   - Per renal recs, will give PRN Lasix to keep total daily UOP > 500 mL.
   .
   # Tachycardia/ AFib: appeared sinus on arrival, then through his course
   had couple runs of tachycardia that appeared to be Afib with aberrancy
   that were self-limited and well-tolerated.   OSH EKG with RBBB as
   recently as [**10-26**], and reports of atrial fibrillation requiring
   treatment with diltiazem.  Several days ago, went into AFib w/ RVR
   during dialysis.  Treated w/ lopressor 10, dilt 20 IV and dilt PO60.
   Converted back to sinus after 1-2 hours. Atrial irritation believed due
   to IJ that was too deep, now pulled back.  Cause of aberrant SVT during
   second HD session likely due to intracellular shifts, although cause
   not clear.   24 hour amiodarone has completed. Patient with persistent
   tachycardia and hypertension yesterday & today.
   - Adenosine if SVT tonight to see if sinus; if need to [**Last Name (LF) 281**], [**First Name3 (LF) **] so in
   synced mode; adenosine is at bedside; alternatively could also try
   diltiazem is another SVT occurs as that broke it previously too.
   - Continue diltiazem 30mg qid
   - Continue metoprolol at 125mg tid
   - Increased amlodipine to 10mg daily.
   - Continue hydralazine 500mg Q6 hrs
   - Watch hemodynamics and rhythm; on telemetry
   .
   # Hypertension
   - Continue clonidine patch 0.2 (know that there will be a delay before
   it starts affecting BP)
   - Increase propofol until the clonidine patch
s effectiveness increases
   - Cont Dilt and Metop.
   - Increased Amlodipine to 10 mg PO daily.
   .
   # DM: Blood sugars were elevated, now much better controlled.
   - glargine increased to 40 QD, and continue ISS
   .
   OTHER STABLE ISSUES
   .
   # Elevated Troponin: CK elevated, CKMB flat. most likely demand
   ischemia in setting of [**First Name3 (LF) 281**] and persistent tachycardia vs elevated [**1-4**]
   renal failure. ACS given age unlikely, d/c ACS treatment including ASA,
   heparin gtt, plavix. No longer trending cardiac enzymes.
   .
   # Mild LFT elevation: likely [**1-4**] prolonged hypotension.
   Improved/stable.
   - Continue to trend LFTs
   - Limit tylenol to 2 gm daily; changed standing Tylenol to PRN
   .
   FEN; no IVF, lytes prn, on tube feeds nutren at 40cc/hr, HD schedule
   per renal
   Prophylaxis: Subcutaneous heparin, PPI
   Access: right IJ and A line, and HD line.
   Code:  Full code confirmed
   Communication: Mother, [**Name (NI) **] [**Name (NI) 11771**] [**Telephone/Fax (1) 11772**]. HCP name/number
   (ICU RN) on whiteboard in room. Family was updated yesterday morning at
   bedside ([**11-7**]).
   Disposition: pending extubation and clinical improvement

2117-11-10 10:01:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, ESBL Klebsiella pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Precidex started yesterday
   24 Hour Events:
   RSBI in 30s today but does have paradoxical breathing and diaphoresis
   on SBT.
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2117-11-9**] 07:58 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2117-11-10**] 04:00 AM
   Other medications:
   per ICU rsdient note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-11-10**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.7
C (99.8
   HR: 95 (71 - 95) bpm
   BP: 181/86(114) {123/43(64) - 181/89(115)} mmHg
   RR: 26 (15 - 31) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.8 kg (admission): 119 kg
   Height: 69 Inch
             Total In:
                                                                  2,858 mL
                                                                    617 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    407 mL
   IVF:
                                                                  1,225 mL
                                                                    180 mL
   Blood products:
   Total out:
                                                                  1,170 mL
                                                                  1,320 mL
   Urine:
                                                                  1,170 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,688 mL
                                                                   -703 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 537 (428 - 688) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 39
   PIP: 14 cmH2O
   SpO2: 92%
   ABG: 7.49/34/68/26/2
   Ve: 11.8 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, able to
   be aroused, but not tracking
   Labs / Radiology
   8.1 g/dL
   318 K/uL
   226 mg/dL
   4.3 mg/dL
   26 mEq/L
   3.8 mEq/L
   59 mg/dL
   103 mEq/L
   139 mEq/L
   23.5 %
   7.3 K/uL
        [image002.jpg]
                             [**2117-11-7**]  03:01 PM
                             [**2117-11-8**]  03:38 AM
                             [**2117-11-8**]  03:04 PM
                             [**2117-11-9**]  12:42 AM
                             [**2117-11-9**]  03:43 AM
                             [**2117-11-9**]  03:01 PM
                             [**2117-11-9**]  04:38 PM
                             [**2117-11-10**]  02:44 AM
                             [**2117-11-10**]  02:46 AM
                             [**2117-11-10**]  09:27 AM
   WBC
   7.7
   6.8
   7.3
   Hct
   23.8
   23.4
   23.5
   Plt
   277
   277
   318
   Cr
   6.4
   4.0
   3.4
   4.3
   TCO2
   25
   28
   29
   28
   27
   27
   Glucose
   193
   163
   186
   226
   Other labs: PT / PTT / INR:13.6/31.2/1.2, CK / CKMB /
   Troponin-T:550/2/0.21, ALT / AST:23/42, Alk Phos / T Bili:132/0.9,
   Amylase / Lipase:57/, Differential-Neuts:78.3 %, Band:1.0 %, Lymph:15.4
   %, Mono:4.5 %, Eos:1.4 %, Lactic Acid:1.5 mmol/L, Albumin:1.9 g/dL,
   LDH:215 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PNEUMONIA, OTHER
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CARDIAC DYSRHYTHMIA OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   37 yo man with DM, here respiratory failure from ESBL Klebsiella
   Septic shock with ESBL klebs bacteremia:  Cont meropenem
   Acute respiratory failure:  Has accessory muscle use on SBT but will
   try to extubate with prn NIPPV if needed
   Hypertension: c/w dilt and metoprolol, clonidine
   Tachcardia/SVT:  dilt and metoprolol
   ARF - HD per renal.  Now producing urine.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2117-11-10**] 04:47 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2117-10-28**] 02:14 AM
   Dialysis Catheter - [**2117-11-3**] 02:00 PM
   Multi Lumen - [**2117-11-3**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2117-11-11 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2117-11-10**] 02:20 PM
   - [**11-10**] BCx from line showed GPC in pairs and clusters (anaerobic bottle
   drawn from A-line). Added vanco.
   - Renal recs: 1. Off HD since [**11-8**], overall Cr stable w. only  mild
   worsening, decent UO. Cont to monitor off HD.  If sig incr in volume
   status, can consider increased diuresis. Keep RIJ in place for now. 2.
   Hyper phos - cont phoslo, add A1OH for additional day.
   - Pt with good UOP without additional lasix, was negative 1,187 mL for
   0000-2200p period.
   - Pt extubated. Hypertensive in PM after extubation, incr clonidine
   patch to 0.3 and incr Metop to 150 TID. ? anxiety component, could
   consider benzo.
   - GPC again grew in blood culture
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2117-11-10**] 05:15 PM
   Meropenem - [**2117-11-10**] 08:00 PM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2117-11-10**] 03:05 PM
   Heparin Sodium (Prophylaxis) - [**2117-11-10**] 11:57 PM
   Famotidine (Pepcid) - [**2117-11-11**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-11-11**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.4
C (99.4
   HR: 82 (75 - 101) bpm
   BP: 194/99(125) {117/58(77) - 194/99(125)} mmHg
   RR: 25 (12 - 41) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.8 kg (admission): 119 kg
   Height: 69 Inch
             Total In:
                                                                  1,196 mL
                                                                    138 mL
   PO:
             TF:
                                                                    330 mL
   IVF:
                                                                    702 mL
                                                                    138 mL
   Blood products:
   Total out:
                                                                  2,525 mL
                                                                    800 mL
   Urine:
                                                                  1,625 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,329 mL
                                                                   -662 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 389 (389 - 537) mL
   PS : 5 cmH2O
   RR (Spontaneous): 33
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: 7.47/36/151/26/3
   Ve: 12.8 L/min
   PaO2 / FiO2: 252
   Physical Examination
   GEN: NAD, speaks short phrases of [**1-5**] words, alert, appears anxious.
   CV: RRR, no m/r/g
   PULM: CTAB
   ABD: soft, nt, nd, +BS
   EXTR: no edema
   Labs / Radiology
   352 K/uL
   8.4 g/dL
   138 mg/dL
   3.8 mg/dL
   26 mEq/L
   3.5 mEq/L
   65 mg/dL
   105 mEq/L
   141 mEq/L
   26.3 %
   8.5 K/uL
        [image002.jpg]
                             [**2117-11-9**]  12:42 AM
                             [**2117-11-9**]  03:43 AM
                             [**2117-11-9**]  03:01 PM
                             [**2117-11-9**]  04:38 PM
                             [**2117-11-10**]  02:44 AM
                             [**2117-11-10**]  02:46 AM
                             [**2117-11-10**]  09:27 AM
                             [**2117-11-10**]  03:14 PM
                            [**2117-11-11**]  03:16 AM
                            [**2117-11-11**]  03:47 AM
   WBC
   6.8
   7.3
   8.5
   Hct
   23.4
   23.5
   26.3
   Plt
   277
   318
   352
   Cr
   4.0
   3.4
   4.3
   3.8
   TCO2
   29
   28
   27
   27
   27
   27
   Glucose
   163
   186
   226
   138
   Other labs: PT / PTT / INR:13.6/31.2/1.2, CK / CKMB /
   Troponin-T:550/2/0.21, ALT / AST:23/42, Alk Phos / T Bili:132/0.9,
   Amylase / Lipase:57/, Differential-Neuts:78.3 %, Band:1.0 %, Lymph:15.4
   %, Mono:4.5 %, Eos:1.4 %, Lactic Acid:0.9 mmol/L, Albumin:1.9 g/dL,
   LDH:215 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:6.3 mg/dL
   CXR: today with decreased opacity at LUL versus yesterday
   Assessment and Plan
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PNEUMONIA, OTHER
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CARDIAC DYSRHYTHMIA OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   37 y/o with DM presents from OSH after presenting in septic [**Doctor Last Name 281**] with
   Staph PNA / bacteria with a course complicated by ARF and tachycardia,
   currently remains intubated but off pressors since [**2117-10-28**]. Staph in
   blood/sputum (OSH), GNR in blood, klebsiella and pseudomonas in
   sputum.  Has gone into SVT (wide complex) in the past, resolved with
   adenosine.
   .
   # Septic [**Year (2 digits) 281**]/Pneumonia: BP stable off pressors. Culture data positive
   for MSSA in the sputum and blood early in OSH course.  CT scan with L >
   R infiltrates, but no sign of empyema. We broadened antibiotics
   empirically with vanc and cefepime with improvement in the patient
   status.  CT scan did show fluid in sinuses and multi-focal pneumonia
   but no other clear source.  Treated for flu although DFA neg x 2 in
   OSH, with another negative DFA here we stopped Tamiflu.  Elevated mixed
   venous Sat elevated at 84% and mottled appearance most suggestive of
   septic etiology. CVP at 15, hypovolemia unlikely. Robust BP despite
   tachycardia, high mixed venous, and preserved EF on OSH ECHO suggests
   against cardiogenic [**Year (2 digits) 281**]. Given negative urine legionalla and
   prolonged QTc at times, we have avoided using a fluoroquinolone.
   Currently, we are treating for the MSSA found on blood/sputum from OSH,
   Klebsiella pneumoniae and pseudomonas in the sputum from [**Hospital1 19**], GNR in
   blood and radiographic evidence of PNA.  TTE normal, no signs of
   vegetations.  Gram negative rods in blood culture from [**11-1**].
   - Per ID consult, patient changed from nafcillin/meropenem/gent to:
   solely Meropenem (day 1 was [**2117-10-31**]).  Now on day 9. Will treat with
   14 total days Meropenem since first negative blood culture = course
   should be from [**11-5**] to [**11-19**].
   - Added vancomycin on [**11-10**] for GPC
   - get cultures daily from all possible lines (until cultures negative
   x48 hours, per ID)
   - pull as many lines today as possible (aline, HD line, TLC)
   - Requested speciation and sensitivities of GNRs in sputum cxr, as
   concern for treatment failure given growth while pt on appropriate abx
   therapy; also spec/[**Last Name (un) 270**] of GPC
   - f/u daily CXR
   - prn Tylenol for fevers
   .
   # Hypoxic Resp failure: Bilateral infiltrates on CXR and high oxygen
   requirement suggestive of ARDS.  Did not have any weaning of his vent
   setting yesterday, other than decreased RR to counteract alkalosis.
   Weaned FiO2 to 40% and now with PEEP of 8.  Extubated on [**11-10**] (s/p
   precedex, benzo use to help with anxiety while intubated).
   Significantly resolving.
   -Meropenem, vancomycin as above
   - Daily CXR
   - Wean O2 as tolerated
   .
   # ARF: Cr currently elevated at 7.8, currently oliguric, which will
   likely continue while he is so sick. Urine output increasing
   considerably over past few days.
   - F/u renal recs, holding on HD for now
   - Per renal recs, will give PRN Lasix to keep total daily UOP > 2L
   - ask renal if we can pull HD line today given positive blood cultures
   .
   # Tachycardia/ AFib: appeared sinus on arrival, then through his course
   had couple runs of tachycardia that appeared to be Afib with aberrancy
   that were self-limited and well-tolerated.   OSH EKG with RBBB as
   recently as [**10-26**], and reports of atrial fibrillation requiring
   treatment with diltiazem.  Several days ago, went into AFib w/ RVR
   during dialysis.  Treated w/ lopressor 10, dilt 20 IV and dilt PO60.
   Converted back to sinus after 1-2 hours. Atrial irritation believed due
   to IJ that was too deep, now pulled back.  Cause of aberrant SVT during
   second HD session likely due to intracellular shifts, although cause
   not clear.   24 hour amiodarone has completed. Patient with persistent
   tachycardia and hypertension yesterday & today.
   - Adenosine if SVT tonight to see if sinus; if need to [**Last Name (LF) 281**], [**First Name3 (LF) **] so in
   synced mode; adenosine is at bedside; alternatively could also try
   diltiazem is another SVT occurs as that broke it previously too.
   - Continue diltiazem 30mg qid
   - Continue metoprolol at 125mg tid
   - Increased amlodipine to 10mg daily.
   - Continue hydralazine 500mg Q6 hrs
   - add 10mg IV hydral q6h prn SBP >140
   - anxiety component of tachy/HTN seems apparent, start 1mg [**Hospital1 **]
   clonazepam
   - Watch hemodynamics and rhythm; on telemetry
   .
   # Hypertension
   - Continue clonidine patch 0.2
   - Cont Dilt and Metoprolol
   - Continue Amlodipine 10 mg PO daily.
   - anxiety component of tachy/HTN seems apparent, start 1mg [**Hospital1 **]
   clonazepam
   .
   # DM: Blood sugars were elevated, now much better controlled.
   - Glargine increased to 40 QD, and continue ISS
   .
   # Rash on back, abdomen, thighs: appears consistent with a drug rash,
   could be Vanc or Cefepime, but statistically Cefepime would be more
   likely. Discontinued vanc/cefepime on [**10-31**]; now on meropenem. Improved
   clinically, less erythematous.
   - Monitor
   - Clobetasol [**Hospital1 **] 0.05% for abdomen
   - Clotrimazole/hydro groin cream for rash
   .
   OTHER STABLE ISSUES
   .
   # Elevated Troponin: CK elevated, CKMB flat. most likely demand
   ischemia in setting of [**Hospital1 281**] and persistent tachycardia vs elevated [**1-4**]
   renal failure. ACS given age unlikely, d/c ACS treatment including ASA,
   heparin gtt, plavix. No longer trending cardiac enzymes.
   .
   # Mild LFT elevation: likely [**1-4**] prolonged hypotension.
   Improved/stable.
   - Continue to trend LFTs
   - Limit tylenol to 2 gm daily; changed standing Tylenol to PRN
   .
   FEN; no IVF, lytes prn, start tube feeds (place NG tube), HD schedule
   per renal
 hold for now
   Prophylaxis: Subcutaneous heparin, PPI
   Access: right IJ and A line, and HD line.
   Code:  Full code confirmed
   Communication: Mother, [**Name (NI) **] [**Name (NI) 11771**] [**Telephone/Fax (1) 11772**]. HCP name/number
   (ICU RN) on whiteboard in room. Family was updated this AM at bedside
   ([**11-11**]).
   Disposition: pending clinical improvement, stay in ICU
   ICU Care
   Lines:
   Arterial Line - [**2117-10-28**] 02:14 AM
   Dialysis Catheter - [**2117-11-3**] 02:00 PM
   Multi Lumen - [**2117-11-3**] 02:00 PM

2117-11-11 12:14:00 Physician Attending Progress Note
Chief Complaint: Klebsiella pneumonia, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated yesterday and doing well.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2117-11-10**] 02:20 PM
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2117-11-10**] 05:15 PM
   Meropenem - [**2117-11-10**] 08:00 PM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2117-11-10**] 03:05 PM
   Heparin Sodium (Prophylaxis) - [**2117-11-10**] 11:57 PM
   Famotidine (Pepcid) - [**2117-11-11**] 04:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-11-11**] 12:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37
C (98.6
   HR: 79 (75 - 101) bpm
   BP: 182/95(119) {117/58(77) - 194/99(125)} mmHg
   RR: 32 (12 - 41) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.8 kg (admission): 119 kg
   Height: 69 Inch
             Total In:
                                                                  1,196 mL
                                                                    160 mL
   PO:
             TF:
                                                                    330 mL
   IVF:
                                                                    702 mL
                                                                    160 mL
   Blood products:
   Total out:
                                                                  2,525 mL
                                                                  1,400 mL
   Urine:
                                                                  1,625 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,329 mL
                                                                 -1,240 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 389 (389 - 389) mL
   PS : 5 cmH2O
   RR (Spontaneous): 33
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: 7.47/36/151/26/3
   Ve: 12.8 L/min
   PaO2 / FiO2: 302
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   352 K/uL
   138 mg/dL
   3.8 mg/dL
   26 mEq/L
   3.5 mEq/L
   65 mg/dL
   105 mEq/L
   141 mEq/L
   26.3 %
   8.5 K/uL
        [image002.jpg]
                             [**2117-11-9**]  12:42 AM
                             [**2117-11-9**]  03:43 AM
                             [**2117-11-9**]  03:01 PM
                             [**2117-11-9**]  04:38 PM
                             [**2117-11-10**]  02:44 AM
                             [**2117-11-10**]  02:46 AM
                             [**2117-11-10**]  09:27 AM
                             [**2117-11-10**]  03:14 PM
                            [**2117-11-11**]  03:16 AM
                            [**2117-11-11**]  03:47 AM
   WBC
   6.8
   7.3
   8.5
   Hct
   23.4
   23.5
   26.3
   Plt
   277
   318
   352
   Cr
   4.0
   3.4
   4.3
   3.8
   TCO2
   29
   28
   27
   27
   27
   27
   Glucose
   163
   186
   226
   138
   Other labs: PT / PTT / INR:13.6/31.2/1.2, CK / CKMB /
   Troponin-T:550/2/0.21, ALT / AST:23/42, Alk Phos / T Bili:132/0.9,
   Amylase / Lipase:57/, Differential-Neuts:78.3 %, Band:1.0 %, Lymph:15.4
   %, Mono:4.5 %, Eos:1.4 %, Lactic Acid:0.9 mmol/L, Albumin:1.9 g/dL,
   LDH:215 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:6.3 mg/dL
   Microbiology: 128, [**11-10**] blood cultures - GPCs
   Assessment and Plan
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PNEUMONIA, OTHER
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CARDIAC DYSRHYTHMIA OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   37 yo man with DM, here respiratory failure from ESBL Klebsiella
   Septic shock with ESBL klebs bacteremia:  Cont meropenem
   Acute respiratory failure:  Now extubated - doing well
   GPC bacteremia: vancomycin.  Will d/c central line, HD line, a-line
   Hypertension: continues to be hypertensive.  dilt and metoprolol,
   clonidine.  prn hydralazine
   Tachcardia/SVT:  dilt and metoprolol
   ARF - HD per renal.  Now producing urine.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2117-10-28**] 02:14 AM
   Dialysis Catheter - [**2117-11-3**] 02:00 PM
   Multi Lumen - [**2117-11-3**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2117-11-12 10:44:00 Physician Attending Progress Note
Chief Complaint: Klesiella Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   HD line, a-line, and CVL all pulled yesterday
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2117-11-11**] 02:00 PM
 ARTERIAL LINE - STOP [**2117-11-11**] 03:00 PM
 PICC LINE - START [**2117-11-11**] 04:30 PM
 MULTI LUMEN - STOP [**2117-11-11**] 05:00 PM
 CALLED OUT
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2117-11-11**] 08:15 PM
   Cefipime - [**2117-11-11**] 10:12 PM
   Vancomycin - [**2117-11-12**] 10:09 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2117-11-11**] 10:11 PM
   Heparin Sodium (Prophylaxis) - [**2117-11-12**] 08:20 AM
   Other medications:
   per ICU resdient note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-11-12**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.2
C (99
   HR: 88 (76 - 98) bpm
   BP: 119/62(77) {107/50(63) - 156/95(110)} mmHg
   RR: 27 (22 - 70) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.8 kg (admission): 119 kg
   Height: 69 Inch
             Total In:
                                                                    773 mL
                                                                    983 mL
   PO:
             TF:
                                                                    128 mL
                                                                    474 mL
   IVF:
                                                                    570 mL
                                                                    369 mL
   Blood products:
   Total out:
                                                                  4,070 mL
                                                                  1,295 mL
   Urine:
                                                                  4,070 mL
                                                                  1,295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,297 mL
                                                                   -311 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: No(t) No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, still confused
   Labs / Radiology
   8.8 g/dL
   414 K/uL
   217 mg/dL
   2.7 mg/dL
   24 mEq/L
   3.5 mEq/L
   63 mg/dL
   108 mEq/L
   146 mEq/L
   27.3 %
   8.0 K/uL
        [image002.jpg]
                             [**2117-11-9**]  03:43 AM
                             [**2117-11-9**]  03:01 PM
                             [**2117-11-9**]  04:38 PM
                             [**2117-11-10**]  02:44 AM
                             [**2117-11-10**]  02:46 AM
                             [**2117-11-10**]  09:27 AM
                             [**2117-11-10**]  03:14 PM
                            [**2117-11-11**]  03:16 AM
                            [**2117-11-11**]  03:47 AM
                            [**2117-11-12**]  05:12 AM
   WBC
   6.8
   7.3
   8.5
   8.0
   Hct
   23.4
   23.5
   26.3
   27.3
   Plt
   277
   318
   352
   414
   Cr
   4.0
   3.4
   4.3
   3.8
   2.7
   TCO2
   28
   27
   27
   27
   27
   Glucose
   186
   226
   138
   217
   Other labs: PT / PTT / INR:13.6/31.2/1.2, CK / CKMB /
   Troponin-T:550/2/0.21, ALT / AST:23/42, Alk Phos / T Bili:132/0.9,
   Amylase / Lipase:57/, Differential-Neuts:78.3 %, Band:1.0 %, Lymph:15.4
   %, Mono:4.5 %, Eos:1.4 %, Lactic Acid:0.9 mmol/L, Albumin:2.5 g/dL,
   LDH:215 IU/L, Ca++:8.1 mg/dL, Mg++:1.5 mg/dL, PO4:6.0 mg/dL
   Microbiology: [**11-9**], [**11-10**] - coag neg staph
   Assessment and Plan
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PNEUMONIA, OTHER
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CARDIAC DYSRHYTHMIA OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   37 yo man with DM, here respiratory failure from ESBL Klebsiella
   Septic shock with ESBL klebs bacteremia:  Cont meropenem - redose for
   improving renal function.  Got a dose of cefepime overnight but will
   not continue.  Awaiting sensitivities on pseudomonas in sputum
   Acute respiratory failure:  Now extubated - continues to do well
   GPC bacteremia: coag neg staph in blood - now de-lined except for new
   PICC line
   Hypertension: dilt and metoprolol, clonidine.  prn hydralazine
   Tachcardia/SVT:  dilt and metoprolol
   ARF - HD per renal.  Now producing urine, Cr dropping, and
   autodiuresing
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2117-11-12**] 08:13 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2117-11-11**] 04:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:

2117-11-13 11:27:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Klebsiella pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Had evidence of accessory muscle use and tachypnea last night and this
   AM.  Currently on mask ventilation
   24 Hour Events:
 BLOOD CULTURED - At [**2117-11-12**] 04:24 PM
 CALLED OUT
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2117-11-11**] 10:12 PM
   Meropenem - [**2117-11-13**] 08:22 AM
   Vancomycin - [**2117-11-13**] 08:23 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-11-13**] 08:22 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: NIPPV
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-11-13**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.6
C (99.6
   HR: 90 (78 - 106) bpm
   BP: 160/82(98) {109/43(60) - 165/92(136)} mmHg
   RR: 25 (20 - 40) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.8 kg (admission): 119 kg
   Height: 69 Inch
             Total In:
                                                                  1,941 mL
                                                                    779 mL
   PO:
             TF:
                                                                    871 mL
                                                                    123 mL
   IVF:
                                                                    670 mL
                                                                    456 mL
   Blood products:
   Total out:
                                                                  3,010 mL
                                                                  1,500 mL
   Urine:
                                                                  3,010 mL
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,069 mL
                                                                   -721 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 316 (316 - 316) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.49/37/96.[**Numeric Identifier 181**]/24/4
   Ve: 3.3 L/min
   PaO2 / FiO2: 323
   Physical Examination
   General Appearance: Overweight / Obese, on NIPPV with abd muscle use
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Non-tender, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   390 K/uL
   145 mg/dL
   2.0 mg/dL
   24 mEq/L
   3.8 mEq/L
   57 mg/dL
   114 mEq/L
   150 mEq/L
   26.4 %
   8.1 K/uL
        [image002.jpg]
                             [**2117-11-9**]  04:38 PM
                             [**2117-11-10**]  02:44 AM
                             [**2117-11-10**]  02:46 AM
                             [**2117-11-10**]  09:27 AM
                             [**2117-11-10**]  03:14 PM
                            [**2117-11-11**]  03:16 AM
                            [**2117-11-11**]  03:47 AM
                            [**2117-11-12**]  05:12 AM
                            [**2117-11-12**]  09:36 PM
                            [**2117-11-13**]  03:06 AM
   WBC
   7.3
   8.5
   8.0
   8.1
   Hct
   23.5
   26.3
   27.3
   26.4
   Plt
   [**Telephone/Fax (3) 12098**]90
   Cr
   3.4
   4.3
   3.8
   2.7
   2.0
   TCO2
   27
   27
   27
   27
   29
   Glucose
   [**Telephone/Fax (3) 12099**]45
   Other labs: PT / PTT / INR:13.6/31.2/1.2, CK / CKMB /
   Troponin-T:550/2/0.21, ALT / AST:23/42, Alk Phos / T Bili:132/0.9,
   Amylase / Lipase:57/, Differential-Neuts:78.3 %, Band:1.0 %, Lymph:15.4
   %, Mono:4.5 %, Eos:1.4 %, Lactic Acid:0.9 mmol/L, Albumin:2.5 g/dL,
   LDH:215 IU/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:6.4 mg/dL
   Microbiology: [**11-8**]: corynebacterium
   Assessment and Plan
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PNEUMONIA, OTHER
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 CARDIAC DYSRHYTHMIA OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   37 yo man with DM, here respiratory failure from ESBL Klebsiella
   ESBL klebs bacteremia/pneumonia:  Cont meropenem
   Acute respiratory failure:  Has had onset of abdominal muscle use -
   will continue with bipap prn.
   GPC bacteremia: coag neg staph/cornynebacterium - now de-lined except
   for new PICC line.  Cont vanc.
   Hypertension: dilt and metoprolol, clonidine.  prn hydralazine
   Tachcardia/SVT:  dilt and metoprolol
   ARF - Renal function continues to improve
   MS - continues to be impaired though he does follow commands
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2117-11-13**] 08:26 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2117-11-11**] 04:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2117-11-14 11:19:00 Physician Attending Progress Note
Chief Complaint: Klebsiella pneumonia, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Still not conversant
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2117-11-13**] 06:00 PM
   Had episode of respiratory distress/hypoxemia last PM that resolved
   with nebs, repositioning
   CXR this AM consitent with L mainstem mucous plugging
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2117-11-11**] 10:12 PM
   Vancomycin - [**2117-11-13**] 09:00 PM
   Meropenem - [**2117-11-14**] 07:55 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2117-11-13**] 07:50 PM
   Furosemide (Lasix) - [**2117-11-13**] 07:50 PM
   Famotidine (Pepcid) - [**2117-11-14**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2117-11-14**] 07:55 AM
   Other medications:
   per ICU resdient note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: Tachypnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-11-14**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 84 (76 - 102) bpm
   BP: 142/68(84) {120/56(69) - 156/83(98)} mmHg
   RR: 29 (17 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.8 kg (admission): 119 kg
   Height: 69 Inch
             Total In:
                                                                  4,058 mL
                                                                  1,636 mL
   PO:
             TF:
                                                                    630 mL
                                                                    496 mL
   IVF:
                                                                  2,828 mL
                                                                    460 mL
   Blood products:
   Total out:
                                                                  4,255 mL
                                                                  1,535 mL
   Urine:
                                                                  4,255 mL
                                                                  1,535 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -197 mL
                                                                    102 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 420 (389 - 420) mL
   PS : 14 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 17 cmH2O
   Plateau: 12 cmH2O
   SpO2: 95%
   ABG: 7.47/39/78.[**Numeric Identifier 181**]/25/4
   Ve: 11 L/min
   PaO2 / FiO2: 132
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: throughout)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   373 K/uL
   210 mg/dL
   1.6 mg/dL
   25 mEq/L
   3.8 mEq/L
   46 mg/dL
   112 mEq/L
   148 mEq/L
   24.7 %
   8.8 K/uL
        [image002.jpg]
                             [**2117-11-10**]  09:27 AM
                             [**2117-11-10**]  03:14 PM
                            [**2117-11-11**]  03:16 AM
                            [**2117-11-11**]  03:47 AM
                            [**2117-11-12**]  05:12 AM
                            [**2117-11-12**]  09:36 PM
                            [**2117-11-13**]  03:06 AM
                            [**2117-11-13**]  03:00 PM
                            [**2117-11-13**]  07:49 PM
                            [**2117-11-14**]  03:59 AM
   WBC
   8.5
   8.0
   8.1
   8.8
   Hct
   26.3
   27.3
   26.4
   24.7
   Plt
   [**Telephone/Fax (3) 12115**]73
   Cr
   3.8
   2.7
   2.0
   1.7
   1.6
   TCO2
   27
   27
   27
   29
   29
   Glucose
   138
   217
   145
   243
   210
   Other labs: PT / PTT / INR:13.6/31.2/1.2, CK / CKMB /
   Troponin-T:550/2/0.21, ALT / AST:23/42, Alk Phos / T Bili:132/0.9,
   Amylase / Lipase:57/, Differential-Neuts:78.3 %, Band:1.0 %, Lymph:15.4
   %, Mono:4.5 %, Eos:1.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.5 g/dL,
   LDH:215 IU/L, Ca++:8.7 mg/dL, Mg++:1.4 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 DYSPNEA (SHORTNESS OF BREATH)
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 PNEUMONIA, OTHER
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   37 yo man with DM, here respiratory failure from ESBL Klebsiella
   ESBL klebs bacteremia/pneumonia:  Cont meropenem
   Acute respiratory failure:  Had episode of mucous plugging seen on CXR
   this AM - exam no longer constent after chest PT --> will repeat CXR
   GPC bacteremia: Cont vanc
   Hypertension: dilt and metoprolol, clonidine.  Start ACE-I.  prn
   hydralazine
   Tachcardia/SVT:  dilt and metoprolol
   ARF - Renal function continues to improve
   MS - still has poor mental status - will hold off on head imaging,
   suspect ongoing ICU delerium
   DM - sugars elevated but getting D5W for hypernatremia
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2117-11-13**] 11:20 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2117-11-11**] 04:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2117-11-15 09:39:00 Physician Attending Progress Note
Chief Complaint: Klebsiella pneumonia, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No NIPPV overnight
   24 Hour Events:
   Large mucous plug suctioned yesterday
   History obtained from Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2117-11-14**] 08:00 PM
   Meropenem - [**2117-11-15**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-11-14**] 03:48 PM
   Other medications:
   per ICU resdient note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-11-15**] 09:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37
C (98.6
   HR: 85 (78 - 99) bpm
   BP: 135/75(87) {112/60(75) - 161/91(105)} mmHg
   RR: 26 (12 - 37) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113.8 kg (admission): 119 kg
   Height: 69 Inch
             Total In:
                                                                  4,641 mL
                                                                  2,124 mL
   PO:
             TF:
                                                                  1,147 mL
                                                                    429 mL
   IVF:
                                                                  2,000 mL
                                                                  1,065 mL
   Blood products:
   Total out:
                                                                  3,425 mL
                                                                  1,110 mL
   Urine:
                                                                  3,425 mL
                                                                  1,110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,216 mL
                                                                  1,014 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, still not
   interacting/speaking significantly
   Labs / Radiology
   8.0 g/dL
   339 K/uL
   246 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.8 mEq/L
   37 mg/dL
   112 mEq/L
   146 mEq/L
   24.9 %
   7.6 K/uL
        [image002.jpg]
                            [**2117-11-11**]  03:16 AM
                            [**2117-11-11**]  03:47 AM
                            [**2117-11-12**]  05:12 AM
                            [**2117-11-12**]  09:36 PM
                            [**2117-11-13**]  03:06 AM
                            [**2117-11-13**]  03:00 PM
                            [**2117-11-13**]  07:49 PM
                            [**2117-11-14**]  03:59 AM
                            [**2117-11-14**]  05:40 PM
                            [**2117-11-15**]  05:38 AM
   WBC
   8.5
   8.0
   8.1
   8.8
   7.6
   Hct
   26.3
   27.3
   26.4
   24.7
   24.9
   Plt
   [**Telephone/Fax (3) 12115**]73
   339
   Cr
   3.8
   2.7
   2.0
   1.7
   1.6
   1.4
   1.1
   TCO2
   27
   29
   29
   Glucose
   138
   217
   145
   243
   210
   246
   Other labs: PT / PTT / INR:13.6/31.2/1.2, CK / CKMB /
   Troponin-T:550/2/0.21, ALT / AST:23/42, Alk Phos / T Bili:132/0.9,
   Amylase / Lipase:57/, Differential-Neuts:78.3 %, Band:1.0 %, Lymph:15.4
   %, Mono:4.5 %, Eos:1.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.5 g/dL,
   LDH:215 IU/L, Ca++:8.1 mg/dL, Mg++:1.3 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 DYSPNEA (SHORTNESS OF BREATH)
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 PNEUMONIA, OTHER
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2117-11-15**] 12:26 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2117-11-11**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill
   ------ Protected Section ------
   37 yo man with DM, here respiratory failure from ESBL Klebsiella
   ESBL klebs bacteremia/pneumonia:  Cont meropenem
   Acute respiratory failure:  Ongoing mucous plugging
 aggressive
   pulmonary toilet
   GPC bacteremia: Cont vanc
   Hypertension: dilt and metoprolol, clonidine.  ACE-I.
   Tachcardia/SVT:  dilt and metoprolol
   ARF - resolved
   MS
 on reexam, somewhat improved.  Does appear to have significant
   weakness diffusely as well
   Hypernatremia: improving continue to replete fH20
   Remainder of issues per ICU team.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2682**] [**Name8 (MD) 2683**], MD
   on:[**2117-11-15**] 09:43 AM ------

2117-11-16 11:22:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Klebsiella pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No complaints today
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2117-11-16**] 08:00 AM
   Vancomycin - [**2117-11-16**] 09:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2117-11-16**] 04:08 AM
   Heparin Sodium (Prophylaxis) - [**2117-11-16**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-11-16**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37
C (98.6
   HR: 75 (69 - 91) bpm
   BP: 109/63(75) {109/54(72) - 155/85(99)} mmHg
   RR: 20 (16 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113 kg (admission): 119 kg
   Height: 69 Inch
             Total In:
                                                                  6,625 mL
                                                                  2,823 mL
   PO:
             TF:
                                                                  1,085 mL
                                                                    502 mL
   IVF:
                                                                  3,710 mL
                                                                  1,302 mL
   Blood products:
   Total out:
                                                                  2,910 mL
                                                                  1,950 mL
   Urine:
                                                                  2,910 mL
                                                                  1,950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,715 mL
                                                                    873 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   scattered)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   305 K/uL
   159 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.4 mEq/L
   31 mg/dL
   110 mEq/L
   143 mEq/L
   24.7 %
   8.9 K/uL
        [image002.jpg]
                            [**2117-11-12**]  05:12 AM
                            [**2117-11-12**]  09:36 PM
                            [**2117-11-13**]  03:06 AM
                            [**2117-11-13**]  03:00 PM
                            [**2117-11-13**]  07:49 PM
                            [**2117-11-14**]  03:59 AM
                            [**2117-11-14**]  05:40 PM
                            [**2117-11-15**]  05:38 AM
                            [**2117-11-15**]  04:59 PM
                            [**2117-11-16**]  03:20 AM
   WBC
   8.0
   8.1
   8.8
   7.6
   8.9
   Hct
   27.3
   26.4
   24.7
   24.9
   24.7
   Plt
   [**Telephone/Fax (3) 12161**]39
   305
   Cr
   2.7
   2.0
   1.7
   1.6
   1.4
   1.1
   1.0
   1.0
   TCO2
   29
   29
   Glucose
   [**Telephone/Fax (3) 12162**]
   Other labs: PT / PTT / INR:14.0/32.3/1.2, CK / CKMB /
   Troponin-T:550/2/0.21, ALT / AST:29/28, Alk Phos / T Bili:83/0.7,
   Amylase / Lipase:57/, Differential-Neuts:78.3 %, Band:1.0 %, Lymph:15.4
   %, Mono:4.5 %, Eos:1.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.7 g/dL,
   LDH:194 IU/L, Ca++:8.0 mg/dL, Mg++:1.5 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 DYSPNEA (SHORTNESS OF BREATH)
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 PNEUMONIA, OTHER
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
   37 yo man with DM, here respiratory failure from ESBL Klebsiella
   ESBL klebs bacteremia/pneumonia:  Cont meropenem - 14 day course.  CXR
   improved.
   Acute respiratory failure:  Cont aggressive pulmonary toilet
   GPC bacteremia: Cont vanc for 7 day course - will be complete after PM
   dose today
   Weakness: He appears to have a significant ICU myopathy but has shown
   some slow improvements at least in streength of voice.  MS also appears
   to be improving
   Hypertension: dilt and metoprolol, clonidine.  ACE-I.  Decrease
   hydralazine
   Tachcardia/SVT:  dilt and metoprolol
   Hypernatremia: improving continue to replete fH20
   Rehab screening if possible
 will discuss with case management
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2117-11-16**] 02:59 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2117-11-11**] 04:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2117-11-17 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: pneumonia, respiratory distress, AMS
   24 Hour Events:
   - Relative hypotension: SBP was in 100-110's in early evening and pt
   had meds held (pm metoprolol, amlodipine and dilt), clonidine patch was
   dc'ed, after  which his blood pressures were 130s - 140s when awake,
   100s when asleep.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2117-11-16**] 08:03 PM
   Meropenem - [**2117-11-17**] 12:16 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-11-17**] 12:16 AM
   Other medications:
   Flowsheet Data as of  [**2117-11-17**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 72 (66 - 86) bpm
   BP: 125/76(86) {97/41(55) - 148/85(99)} mmHg
   RR: 18 (14 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113 kg (admission): 119 kg
   Height: 69 Inch
             Total In:
                                                                  4,888 mL
                                                                  1,040 mL
   PO:
             TF:
                                                                  1,089 mL
                                                                    312 mL
   IVF:
                                                                  2,029 mL
                                                                    268 mL
   Blood products:
   Total out:
                                                                  3,180 mL
                                                                    660 mL
   Urine:
                                                                  3,180 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,708 mL
                                                                    380 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   GEN: NAD, alert, talking, following commands
   CV: RRR no m
   Pulm: fairly CTA bilat
   Abd: obese, + BS, soft, nd, non-tender
   Ext: trace edema bilat LE, 2+ pitting edema hands
   Labs / Radiology
   270 K/uL
   7.5 g/dL
   81 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.6 mEq/L
   26 mg/dL
   112 mEq/L
   144 mEq/L
   23.3 %
   7.3 K/uL
        [image002.jpg]
                            [**2117-11-13**]  03:06 AM
                            [**2117-11-13**]  03:00 PM
                            [**2117-11-13**]  07:49 PM
                            [**2117-11-14**]  03:59 AM
                            [**2117-11-14**]  05:40 PM
                            [**2117-11-15**]  05:38 AM
                            [**2117-11-15**]  04:59 PM
                            [**2117-11-16**]  03:20 AM
                            [**2117-11-16**]  03:46 PM
                            [**2117-11-17**]  02:48 AM
   WBC
   8.1
   8.8
   7.6
   8.9
   7.3
   Hct
   26.4
   24.7
   24.9
   24.7
   23.3
   Plt
   390
   373
   339
   305
   270
   Cr
   2.0
   1.7
   1.6
   1.4
   1.1
   1.0
   1.0
   0.9
   0.9
   TCO2
   29
   Glucose
   145
   243
   210
   [**Telephone/Fax (3) 12183**]
   81
   Other labs: PT / PTT / INR:14.0/32.3/1.2, CK / CKMB /
   Troponin-T:550/2/0.21, ALT / AST:29/28, Alk Phos / T Bili:83/0.7,
   Amylase / Lipase:57/, Differential-Neuts:78.3 %, Band:1.0 %, Lymph:15.4
   %, Mono:4.5 %, Eos:1.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.7 g/dL,
   LDH:194 IU/L,
    Ca++:7.9 mg/dL (corrected 8.9), Mg++:1.6 mg/dL, PO4:4.1 mg/dL
   Imaging: None new
   Microbiology: [**11-10**] sputum - pseudomonas  ([**Last Name (un) 270**] to [**Last Name (un) 614**]), klebsiella
   ([**Last Name (un) 270**] to [**Last Name (un) 614**])
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 DYSPNEA (SHORTNESS OF BREATH)
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 PNEUMONIA, OTHER
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
   37 y/o with DM presents from OSH after presenting in septic shock with
   Staph PNA / bacteria with a course complicated by ARF and tachycardia,
   currently remains intubated but off pressors since [**2117-10-28**]. Staph in
   blood/sputum (OSH), Klebsiella in blood, klebsiella and pseudomonas in
   sputum.  Has gone into SVT (wide complex) in the past, resolved with
   adenosine.
   .
   # Septic shock/Pneumonia: BP stable off pressors. Culture data positive
   for MSSA in the sputum and blood early in OSH course.  CT scan with L >
   R infiltrates, but no sign of empyema. We broadened antibiotics
   empirically with vanc and cefepime with improvement in the patient
   status.  CT scan did show fluid in sinuses and multi-focal pneumonia
   but no other clear source.  Treated for flu although DFA neg x 2 in
   OSH, with another negative DFA here we stopped Tamiflu.  Elevated mixed
   venous Sat elevated at 84% and mottled appearance most suggestive of
   septic etiology. CVP at 15, hypovolemia unlikely. Robust BP despite
   tachycardia, high mixed venous, and preserved EF on OSH ECHO suggests
   against cardiogenic shock. Given negative urine legionalla and
   prolonged QTc at times, we have avoided using a fluoroquinolone.
   Currently, we are treating for the MSSA found on blood/sputum from OSH,
   Klebsiella pneumoniae and pseudomonas in the sputum from [**Hospital1 19**], GNR in
   blood and radiographic evidence of PNA.  TTE normal, no signs of
   vegetations.  Gram negative rods in blood culture from [**11-1**], growing
   Pseudomonas and Klebsiella.  s/p removal of A.line, HD line, TLC
   - On meropenem; per ID consult: should treat with 14 total days
   Meropenem since first negative blood culture = course should be from
   [**11-5**] to [**11-19**] (coag neg staph on [**11-9**] and [**11-10**] likely staph epi and a
   contaminant).
   - Completed 7 day course of vancomycin on [**11-16**]
   - F/u ID recs
   - hold on daily CXR given continued improvement (Qod CXRs)
   - f/u sputum cxr, sensitivities, speciation
   - prn Tylenol for fevers
   .
   # Hypoxic Resp failure: Bilateral infiltrates on CXR and high oxygen
   requirement suggestive of ARDS.  Did not have any weaning of his vent
   setting yesterday, other than decreased RR to counteract alkalosis.
   Weaned FiO2 to 40% and now with PEEP of 8.  Extubated on [**11-10**] (s/p
   precedex, benzo use to help with anxiety while intubated).
   Significantly resolving. Continues to have episodes of respiratory
   disress and requires frequent suctioning, nebs and respiratory toilet.
   NAC nebs x1 day to help prevent mucus plugging.
   -Meropenem as above
   - Wean O2 as tolerated
   - Frequent suctioning and CPT as tolerated
   .
   # Volume Status: Monitoring hypernatremia. No D5 yesterday.
   - Cont free water flushes 200cc q4h
   - Consider U lytes if hyponatremia worsens, though likely [**1-4**] volume
   overload
   - Per renal recs, will give PRN Lasix to keep total daily UOP > 2L; f/u
   Renal recs
   - Assess I/O and use Lasix for diuresis if necessary in PM
   - Re check electrolytes this pm
   .
   # Hypertension
   - Hydralazine and clonidine patch discontinued
   - Lisinopril 10mg Qday, Dilt 30 QID, Metop 150 TID
   - anxiety component of tachy/HTN seems apparent, start 1mg [**Hospital1 **]
   clonazepam PRN anxiety (started on [**11-11**])
   - Consider initiating Celexa 20mg daily for anxiety with goal of
   d/c
ing Clonazepam once SSRI becomes effective
   .
   # DM: Blood sugars poorly controlled but pt on D5 for hypernatremia
   yesterday.
   - Glargine 50 QD and continue ISS, increase SSI for sugars in 200
   .
   OTHER STABLE ISSUES
   .
   #Altered mental status:  Given patient
s prolonged intubation and
   sedation (>3 weeks) as well as ongoing infection, think pt
s MS is
   likely due to toxic-metabolic encephalopathy.   If no improvement can
   consider head CT, EEG monitoring and AMS w/u.
   - Monitor for now.
   .
   # ARF: Cr initially elevated at 7.8 and pt was oliguric, while patient
   was in septic shock. Urine output increasing considerably over past few
   days and pt
s GFR is likely normal at this point.  Resolved Cr, HD line
   removed.
   - F/u renal recs
   - Per renal recs, will give PRN Lasix to keep total daily UOP > 2L
   .
   # Tachycardia/ AFib: appeared sinus on arrival, then through his course
   had couple runs of tachycardia that appeared to be Afib with aberrancy
   that were self-limited and well-tolerated.   OSH EKG with RBBB as
   recently as [**10-26**], and reports of atrial fibrillation requiring
   treatment with diltiazem.  Several days ago, went into AFib w/ RVR
   during dialysis.  Treated w/ lopressor 10, dilt 20 IV and dilt PO60.
   Converted back to sinus after 1-2 hours. Atrial irritation believed due
   to IJ that was too deep, now pulled back.  Cause of aberrant SVT during
   second HD session likely due to intracellular shifts, although cause
   not clear.   24 hour amiodarone has completed. Patient with persistent
   tachycardia and hypertension for 2 days. Tachycardia resolved x 5
   7 days as of [**11-14**].
   - Adenosine at bedside in case of SVT
   - Continue diltiazem 30mg qid
   - Continue metoprolol at 150 tid
   - anxiety component of tachy/HTN seems apparent, start 1mg [**Hospital1 **]
   clonazepam
   - Watch hemodynamics and rhythm; on telemetry
   .
   # Rash on back, abdomen, thighs: appears consistent with a drug rash,
   could be Vanc or Cefepime, but statistically Cefepime would be more
   likely. Discontinued vanc/cefepime on [**10-31**]; now on meropenem. Improved
   clinically, less erythematous.
   - Monitor
   - Clobetasol [**Hospital1 **] 0.05% for abdomen
   - Clotrimazole/hydro groin cream for rash
   .
   # Elevated Troponin: CK elevated, CKMB flat. most likely demand
   ischemia in setting of shock and persistent tachycardia vs elevated [**1-4**]
   renal failure. ACS given age unlikely, d/c ACS treatment including ASA,
   heparin gtt, plavix. No longer trending cardiac enzymes.
   .
   # Mild LFT elevation: likely [**1-4**] prolonged hypotension.
   Improved/stable.
   - Continue to trend LFTs
   - Limit tylenol to 2 gm daily; changed standing Tylenol to PRN
   .
   FEN; Lytes prn, tube feeds, speech & swallow and PT consults, pt failed
   S&S, will likely need dobhoff placement
   Prophylaxis: Subcutaneous heparin, PPI
   Access: PICC line, peripheral
   Code:  Full code confirmed
   Communication: Mother, [**Name (NI) **] [**Name (NI) 11771**] [**Telephone/Fax (1) 11772**]. HCP name/number
   (ICU RN) on whiteboard in room.
   Disposition: ICU for today as profoundly weak; ideally discharge
   directly to rehab if possible given patient
s insurance

2117-11-17 10:27:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Klebsiella pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Only complaint is rectal discomfort
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2117-11-16**] 08:03 PM
   Meropenem - [**2117-11-17**] 08:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-11-17**] 12:16 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2117-11-17**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.4
   HR: 75 (66 - 86) bpm
   BP: 129/74(86) {97/41(55) - 148/77(91)} mmHg
   RR: 12 (10 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 113 kg (admission): 119 kg
   Height: 69 Inch
             Total In:
                                                                  4,888 mL
                                                                  1,560 mL
   PO:
             TF:
                                                                  1,089 mL
                                                                    468 mL
   IVF:
                                                                  2,029 mL
                                                                    403 mL
   Blood products:
   Total out:
                                                                  3,180 mL
                                                                  1,070 mL
   Urine:
                                                                  3,180 mL
                                                                  1,070 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,708 mL
                                                                    490 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   7.5 g/dL
   270 K/uL
   81 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.6 mEq/L
   26 mg/dL
   112 mEq/L
   144 mEq/L
   23.3 %
   7.3 K/uL
        [image002.jpg]
                            [**2117-11-13**]  03:06 AM
                            [**2117-11-13**]  03:00 PM
                            [**2117-11-13**]  07:49 PM
                            [**2117-11-14**]  03:59 AM
                            [**2117-11-14**]  05:40 PM
                            [**2117-11-15**]  05:38 AM
                            [**2117-11-15**]  04:59 PM
                            [**2117-11-16**]  03:20 AM
                            [**2117-11-16**]  03:46 PM
                            [**2117-11-17**]  02:48 AM
   WBC
   8.1
   8.8
   7.6
   8.9
   7.3
   Hct
   26.4
   24.7
   24.9
   24.7
   23.3
   Plt
   390
   373
   339
   305
   270
   Cr
   2.0
   1.7
   1.6
   1.4
   1.1
   1.0
   1.0
   0.9
   0.9
   TCO2
   29
   Glucose
   145
   243
   210
   [**Telephone/Fax (3) 12183**]
   81
   Other labs: PT / PTT / INR:14.0/32.3/1.2, CK / CKMB /
   Troponin-T:550/2/0.21, ALT / AST:29/28, Alk Phos / T Bili:83/0.7,
   Amylase / Lipase:57/, Differential-Neuts:78.3 %, Band:1.0 %, Lymph:15.4
   %, Mono:4.5 %, Eos:1.4 %, Lactic Acid:1.8 mmol/L, Albumin:2.7 g/dL,
   LDH:194 IU/L, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 DYSPNEA (SHORTNESS OF BREATH)
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 PNEUMONIA, OTHER
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
   37 yo man with DM, here respiratory failure from ESBL Klebsiella
   ESBL klebs bacteremia/pneumonia:  Cont meropenem - 14 day course.
   Acute respiratory failure:  Cont aggressive pulmonary toilet
   Weakness: Slowly improving
   Hypertension: clonidine d/c'd. d/c dilt.  cont lisinopril, metoprolol.
   Tachcardia/SVT:  dilt and metoprolol
   Rehab screening.  Call ou to the floor.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2117-11-17**] 05:08 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2117-11-11**] 04:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: